2170-05-14 06:45:00 Physician Resident Progress Note
24 Hour Events:
 EKG - At [**2170-5-13**] 07:45 PM
 URINE CULTURE - At [**2170-5-13**] 07:48 PM
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-14**] 01:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-5-14**] 03:07 AM
   Furosemide (Lasix) - [**2170-5-14**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-14**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 82 (70 - 86) bpm
   BP: 114/65(76) {106/57(74) - 126/76(85)} mmHg
   RR: 36 (21 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  4,236 mL
                                                                    531 mL
   PO:
                                                                    480 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    756 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                  1,910 mL
   Urine:
                                                                  1,045 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,191 mL
                                                                 -1,379 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 91%
   ABG: ///18/
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious, mod distress [**1-1**]
   pain, speaking in slightly shortened sentences [**1-1**] SOB
   Eyes / Conjunctiva: sclerae anicteric, dry MM, OP with slight erythema
   but no exudate
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking, Rhonchorous: diffuse)
   Abdominal: Soft, Bowel sounds present, diffusely tender to palpation,
   nondistended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: diffuse tenderness to palpation, positive axial
   loading
   Skin:  Not assessed, No(t) Rash: no rash present
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, person, place, Movement: Purposeful,
   Tone: wnl. AAO X 3, slightly tearful during exam. Follows commands.
   Decreased sensation to light touch entire left side including facial
   area. Motor: [**3-4**] upper extremity bilateral and [**4-3**] lower extremity
   bilateral. Reflexes: Patella 3+, negative babinski's. Negative Kernigs,
   Brudzinskis. Able to rotate head side to side without difficulty but
   does have some increased occipital head and neck pain with touching
   chin to chest. Negative photophobia.
   Labs / Radiology
   250 K/uL
   11.8 g/dL
   111 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.2 mEq/L
   16 mg/dL
   109 mEq/L
   140 mEq/L
   32.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2170-5-13**]  06:40 PM
                             [**2170-5-14**]  02:46 AM
   WBC
   4.5
   Hct
   32.7
   Plt
   250
   Cr
   0.9
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   111
   Other labs: PT / PTT / INR:12.5//1.1, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:42/46, Alk Phos / T Bili:139/0.2,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54 yo F with h/o DM II, HTN, [**Year (4 digits) **] who presents with fevers, cough,
   myalgias, n/v/d and found to have hypoxia and multi-focal infiltrates
   on CXR.
   .
   #) Fever, hypoxia - Likely [**1-1**] multi-focal PNA seen on CXR. Most likely
   due to infectious causes including community acquired PNA, aspiration
   PNA, legionella PNA, possible bacterial superinfection of initial viral
   infection. Less likely that infiltrates are secondary to
   pulmonary-renal syndrome as not many RBC on UA and there are other
   likely causes for her ARF.
   - Continue broad antibiotic coverage with vancomycin, ceftriaxone,
   azithromycin.
   - Check urinary legionella antigen.
   - Obtain sputum culture.
   - Given constellation of symptoms, will recheck RRVS to r/o flu and
   place on droplet precautions. Hold on giving tamiflu for now.
   - f/u blood cultures.
   - O2 supplementation to maintain O2 sats > 94%.
   - Tylenol prn
   - Droplet precautions
   .
   #) N/V/D - Given multi-focal infiltrates on CXR and presence of GI
   symptoms, legionella remains on differential. Other possible causes
   include viral gastroenteritis, c. diff as had recent abx exposure from
   dental procedure although no signs of colitis on CT, other possible
   bacterial causes of colitis, and possible hepatobiliary pathology given
   slight elevation in LFTs. Doubt ischemic cause.
   - f/u final read CT abd/pelvis.
   - IVFs X 2 additional liters as above.
   - Clear liquid diet and advance as tolerated.
   - Check urinary legionella as above.
   - Trend LFTs.
   - Anti-emetics prn.
   - Checked lipase, wnl.
   - Rule out for c. diff given recent abx exposure.
   - Monitor Hct and guaiac stools given pt's report of 1 bloody BM. Hct
   is currently 41.3. Send type and screen.
   .
   #) Headache - Per pt, having worst HA of life. Has been ongoing for
   several days so doubt emergent etiologies such as SAH or SDH given the
   fact that her MS is still intact and neurologic exam non-localizing
   other than decreased sensation on left, which appears to be a long
   standing issue in OMR. However, these etiologies must be ruled out.
   Suspect that she has worsening of her baseline HAs in setting of
   infection. Also on differential is meningitis given her complaints of
   photophobia and neck pain. However, her exam does not clearly support a
   diagnosis of meningitis and doubt bacterial cause for this as pt would
   likely be sicker by now as has had 5 days of symptoms.
   - Stat NCHCT.
   - Morphine prn for pain.
   - Consider lumbar puncture to r/o meningitis if has worsening meningeal
   signs, fevers.
   .
   #) ARF - Suspect that rise in Cr is related prerenal causes given poor
   po intake in setting of n/v/d.
   - Check urine lytes.
   - IVFs X 2 additional liters @ 150 cc/hr (TTE in [**4-7**] with EF 70%).
   - Renal U/S and urine sediment if no improvement in Cr with IVFs.
   - Renally dose meds.
   - Avoid nephrotoxins, including home toradol.
   .
   #) Tranaminitis - Slight elevation in AST/ALT/alkphos but TBili wnl.
   Abdominal pain is not localized to RUQ.
   - Trend LFTs.
   - Follow-up final read CT abd/pelvis.
   - Check CK as slight elevation in AST/ALT may be related to muscle
   pathology rather than hepatobiliary pathology.
   - Ok to continue statin for now as LFTs are only mildly elevated.
   .
   #) AG metabolic acidosis - No known h/o ingestions. Not significantly
   hyperglycemic, and lactate wnl in ED. [**Month (only) 11**] also have underlying non-gap
   metabolic acidosis contributing to HCO3 of 19 secondary to diarrhea and
   NS resuscitation in ED.
   - Trend HCO3.
   - Consider switching IVFs to LR.
   - If HCO3 worsens, will check ABG or VBG.
   .
   #) HTN - Although pt with multi-focal PNA, she does not meet criteria
   for sepsis and has not been hypotensive in the ED.
   - Hold metoprolol for now given relative hypotension and poor po
   intake.
   .
   #) s/p [**Month (only) **] - With clean coronaries on cath, thus it was unclear if
   [**Name (NI) **] was actually [**1-1**] ruptured plaque vs. coronary artery spasm.
   Recent ETT [**4-7**] with atypical anginal sxs and without ischemic EKG
   changes. CE negative X 1.
   - Continue aspirin, statin.
   - Holding beta-blocker as above.
   - ROMI given pt is diabetic and with sxs of n/v. Low clinical suspicion
   for ACS.
   .
   #) Depression/anxiety - Continue sertraline.
   .
   #) FEN/GI - clear liquids for now, replete K and other lytes prn.
   #) Ppx - hep sq tid, hold bowel regimen given diarrhea
   #) Code - presumed full
   #) Communication - with patient and daughter [**Name (NI) 6664**] [**Name (NI) 6665**] [**Telephone/Fax (1) 6666**]
   #) Access - [**Last Name (LF) 1200**], [**First Name3 (LF) 116**] place another [**First Name3 (LF) 1200**]
   #) Dispo - ICU care for now, likely callout in am
   ICU Care
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   Comments: Clears, replete lytes prn
   Glycemic Control: Comments: HISS
   Lines:  [**Year (4 digits) 1200**]
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU

2170-05-15 07:20:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
   - net negative -1.6L by 8pm
   - TTE - LVEF 55%, inferior hypokinesis (not necessarily new), no
   vegetations
   - O2 by mask/NC
   - headaches, percocet works (q4h:prn?)
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2170-5-14**] 11:30 AM
   Ceftriaxone - [**2170-5-14**] 06:09 PM
   Vancomycin - [**2170-5-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-14**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-15**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 77 (70 - 90) bpm
   BP: 118/65(77) {110/51(68) - 128/70(84)} mmHg
   RR: 23 (15 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                  1,231 mL
                  PO:
                                                                    180 mL
                  TF:
   IVF:
                                                                  1,051 mL
   Blood products:
   Total out:
                                                                  2,835 mL
                                                                    360 mL
   Urine:
                                                                  2,835 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,604 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.42/36/85.[**Numeric Identifier 433**]/21/0
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious, mod distress [**1-1**]
   pain, speaking in slightly shortened sentences [**1-1**] SOB
   Eyes / Conjunctiva: sclerae anicteric, dry MM, OP with slight erythema
   but no exudate
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking, Rhonchorous: diffuse)
   Abdominal: Soft, Bowel sounds present, diffusely tender to palpation,
   nondistended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: diffuse tenderness to palpation, positive axial
   loading
   Skin:  Not assessed, No(t) Rash: no rash present
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, person, place, Movement: Purposeful,
   Tone: wnl. AAO X 3, slightly tearful during exam. Follows commands.
   Decreased sensation to light touch entire left side including facial
   area. Motor: [**3-4**] upper extremity bilateral and [**4-3**] lower extremity
   bilateral. Reflexes: Patella 3+, negative babinski's. Negative Kernigs,
   Brudzinskis. Able to rotate head side to side without difficulty but
   does have some increased occipital head and neck pain with touching
   chin to chest. Negative photophobia.
   Labs / Radiology
   273 K/uL
   11.2 g/dL
   120 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   17 mg/dL
   107 mEq/L
   142 mEq/L
   31.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2170-5-13**]  06:40 PM
                             [**2170-5-14**]  02:46 AM
                             [**2170-5-14**]  08:07 AM
                             [**2170-5-14**]  06:07 PM
                             [**2170-5-15**]  04:04 AM
   WBC
   4.5
   6.8
   Hct
   32.7
   31.9
   Plt
   250
   273
   Cr
   0.9
   0.6
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   24
   Glucose
   111
   120
   Other labs: PT / PTT / INR:12.5/29.0/1.1, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:42/46, Alk Phos / T Bili:139/0.2,
   Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54 yo F with h/o DM II, HTN, [**Year (4 digits) **] who presents with fevers, cough,
   myalgias, n/v/d and found to have hypoxia and multi-focal infiltrates
   on CXR.
   .
   #) Fever, hypoxia - Likely [**1-1**] multi-focal PNA seen on CXR. Most likely
   due to infectious causes including community acquired PNA, aspiration
   PNA, legionella PNA, possible bacterial superinfection of initial viral
   infection. Less likely that infiltrates are secondary to
   pulmonary-renal syndrome as not many RBC on UA and there are other
   likely causes for her ARF.
   - Continue broad antibiotic coverage with vancomycin, ceftriaxone,
   azithromycin.
   - Check urinary legionella antigen.
   - Obtain sputum culture.
   - Given constellation of symptoms, will recheck RRVS to r/o flu and
   place on droplet precautions. Hold on giving tamiflu for now.
   - f/u blood cultures.
   - O2 supplementation to maintain O2 sats > 94%.
   - Tylenol prn
   - Droplet precautions
   .
   #) N/V/D - Given multi-focal infiltrates on CXR and presence of GI
   symptoms, legionella remains on differential. Other possible causes
   include viral gastroenteritis, c. diff as had recent abx exposure from
   dental procedure although no signs of colitis on CT, other possible
   bacterial causes of colitis, and possible hepatobiliary pathology given
   slight elevation in LFTs. Doubt ischemic cause.
   - f/u final read CT abd/pelvis.
   - IVFs X 2 additional liters as above.
   - Clear liquid diet and advance as tolerated.
   - Check urinary legionella as above.
   - Trend LFTs.
   - Anti-emetics prn.
   - Checked lipase, wnl.
   - Rule out for c. diff given recent abx exposure.
   - Monitor Hct and guaiac stools given pt's report of 1 bloody BM. Hct
   is currently 41.3. Send type and screen.
   .
   #) Headache - Per pt, having worst HA of life. Has been ongoing for
   several days so doubt emergent etiologies such as SAH or SDH given the
   fact that her MS is still intact and neurologic exam non-localizing
   other than decreased sensation on left, which appears to be a long
   standing issue in OMR. However, these etiologies must be ruled out.
   Suspect that she has worsening of her baseline HAs in setting of
   infection. Also on differential is meningitis given her complaints of
   photophobia and neck pain. However, her exam does not clearly support a
   diagnosis of meningitis and doubt bacterial cause for this as pt would
   likely be sicker by now as has had 5 days of symptoms.
   - Stat NCHCT.
   - Morphine prn for pain.
   - Consider lumbar puncture to r/o meningitis if has worsening meningeal
   signs, fevers.
   .
   #) ARF - Suspect that rise in Cr is related prerenal causes given poor
   po intake in setting of n/v/d.
   - Check urine lytes.
   - IVFs X 2 additional liters @ 150 cc/hr (TTE in [**4-7**] with EF 70%).
   - Renal U/S and urine sediment if no improvement in Cr with IVFs.
   - Renally dose meds.
   - Avoid nephrotoxins, including home toradol.
   .
   #) Tranaminitis - Slight elevation in AST/ALT/alkphos but TBili wnl.
   Abdominal pain is not localized to RUQ.
   - Trend LFTs.
   - Follow-up final read CT abd/pelvis.
   - Check CK as slight elevation in AST/ALT may be related to muscle
   pathology rather than hepatobiliary pathology.
   - Ok to continue statin for now as LFTs are only mildly elevated.
   .
   #) AG metabolic acidosis - No known h/o ingestions. Not significantly
   hyperglycemic, and lactate wnl in ED. [**Month (only) 11**] also have underlying non-gap
   metabolic acidosis contributing to HCO3 of 19 secondary to diarrhea and
   NS resuscitation in ED.
   - Trend HCO3.
   - Consider switching IVFs to LR.
   - If HCO3 worsens, will check ABG or VBG.
   .
   #) HTN - Although pt with multi-focal PNA, she does not meet criteria
   for sepsis and has not been hypotensive in the ED.
   - Hold metoprolol for now given relative hypotension and poor po
   intake.
   .
   #) s/p [**Month (only) **] - With clean coronaries on cath, thus it was unclear if
   [**Name (NI) **] was actually [**1-1**] ruptured plaque vs. coronary artery spasm.
   Recent ETT [**4-7**] with atypical anginal sxs and without ischemic EKG
   changes. CE negative X 1.
   - Continue aspirin, statin.
   - Holding beta-blocker as above.
   - ROMI given pt is diabetic and with sxs of n/v. Low clinical suspicion
   for ACS.
   .
   #) Depression/anxiety - Continue sertraline.
   .
   #) FEN/GI - clear liquids for now, replete K and other lytes prn.
   #) Ppx - hep sq tid, hold bowel regimen given diarrhea
   #) Code - presumed full
   #) Communication - with patient and daughter [**Name (NI) 6664**] [**Name (NI) 6665**] [**Telephone/Fax (1) 6666**]
   #) Access - [**Last Name (LF) 1200**], [**First Name3 (LF) 116**] place another [**First Name3 (LF) 1200**]
   #) Dispo - ICU care for now, likely callout in am
   ICU Care
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   20 Gauge - [**2170-5-14**] 12:18 PM
   Nutrition: Clears, replete lytes prn
   Glycemic Control: Comments: HISS
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   Code status: Full code
   Disposition: ICU

2170-05-16 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2170-5-15**] 08:00 PM
 ARTERIAL LINE - START [**2170-5-15**] 08:00 PM
 INVASIVE VENTILATION - START [**2170-5-15**] 08:00 PM
   - hypoxia on face mask, with ABG of 7.41/40/70, pt tachypnic, intubated
   - initally hypotensive and with secretions with intubation
   - given parlytic x 1 dose to place a-line and central line
   - BP responsive to IVF bolus
   - LP not done, due to resp status
   - HIV sent
   - pt with no exposures to insects/[**Doctor Last Name **]
   - cocci, histo, ehrilichia, babesia sent
   - Communicated to with American Red Cross who are helping to bring her
   son from [**Country 6723**] to see her
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2170-5-15**] 10:00 AM
   Ceftriaxone - [**2170-5-15**] 05:36 PM
   Vancomycin - [**2170-5-15**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2170-5-15**] 04:03 PM
   Lorazepam (Ativan) - [**2170-5-15**] 04:59 PM
   Fentanyl - [**2170-5-15**] 07:00 PM
   Midazolam (Versed) - [**2170-5-15**] 07:10 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 87 (74 - 98) bpm
   BP: 113/54(75) {112/54(74) - 185/111(140)} mmHg
   RR: 21 (20 - 48) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  1,936 mL
                                                                    167 mL
   PO:
   TF:
   IVF:
                                                                  1,936 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    190 mL
   Urine:
                                                                  1,270 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    666 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 43.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/47/85.[**Numeric Identifier 433**]/23/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, mod distress [**1-1**] pain,
   speaking in slightly shortened sentences [**1-1**] SOB
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal: diffuse tenderness to palpation
   Skin:  warm and well perfused
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, person, place, Movement: Purposeful,
   Tone: wnl. AAO X 3, slightly tearful during exam. Follows commands.
   Decreased sensation to light touch entire left side including facial
   area. Motor: [**3-4**] upper extremity bilateral and [**4-3**] lower extremity
   bilateral.
   Labs / Radiology
   321 K/uL
   10.7 g/dL
   93 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   31.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2170-5-14**]  08:07 AM
                             [**2170-5-14**]  06:07 PM
                             [**2170-5-15**]  04:04 AM
                             [**2170-5-15**]  06:44 PM
                             [**2170-5-15**]  08:45 PM
                             [**2170-5-15**]  11:14 PM
                             [**2170-5-16**]  02:55 AM
                             [**2170-5-16**]  03:45 AM
                             [**2170-5-16**]  03:59 AM
                             [**2170-5-16**]  06:56 AM
   WBC
   6.8
   7.9
   Hct
   31.9
   31.1
   Plt
   273
   321
   Cr
   0.7
   0.6
   TCO2
   22
   24
   26
   25
   25
   28
   26
   27
   Glucose
   120
   93
   Other labs: PT / PTT / INR:13.6/27.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:27/36, Alk Phos / T Bili:121/0.3,
   Differential-Neuts:78.2 %, Lymph:17.5 %, Mono:3.5 %, Eos:0.7 %, Lactic
   Acid:1.2 mmol/L, LDH:519 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54 female w h/o DM2, HTN, NSTEMI who presents with fever, cough,
   myalgias, n/v/d and found to have hypoxia and multi-focal infiltrates
   on CXR.
   # Respiratory distress: [**1-1**] multi-focal pneumonia which is worse on
   this morning
s CXR. Differential includes PNA secondary to staph,
   pneumococal, atypicals (Mycoplasma, Chlamyadia), aspiration PNA. Also
   on differential less common etiologies such as Histoplasma, Ehrlichia
   and Babesia. Legionella and influenza negative. Fluid status negative
   1.6 L yesterday.
   - vanc/CTX/azithro ([**5-13**] - ), consider adding doxycycline if patient
   clinical status worsens
   - send serologies for Mycoplasma, Chlamyadia, Histoplasma, Ehrlichia
   and Babesia
   - attempt sputum culture
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx, legionella AG
   - consent for HIV test (concern for pcp)
   - goal fluid status: euvolemia
   - limit lorazepam for anxiety
   - O2 supplementation to maintain O2 sats > 94%.
   - ABG if O2 requirement/clinical status changes
   # Fever: Afebrile past 24 hours. Secondary to pulmonary infection. ECHO
   demonstrated no vegatation (patient with recent history of dental work)
   ruling out endocarditis.
   # Headache: unclear etiology, possibly worsening of chronic H/A due to
   dehydration vs. aseptic menigitis (unlikely bacterial due to symptoms
   for over 5 days). CT head unremarkable. Prior to admission MRI/MRA
   unremarkable.
   - Percocet prn for pain
   - once respiratory status more stable consider LP
   # N/V/D: Resolved. Continue clears due to respiratory status.
   - maintenance fluids
   # Tranaminitis: Slight elevation in AST/ALT/alkphos but TBili wnl.
   Final CT abd/pelivs fatty liver only.
   - Trend LFTs daily.
   # Non-anion gap acidosis
 Etiology diarrhea, RTA vs. NS. Most likely
   combination of NS and history of diarrhea. Continue to monitor daily
   chem-7.
   # HTN
 Hold outpatient metoprolol until adequate po intake. BP has not
   been elevated.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety: Continue sertraline. Ativan prn only as [**Male First Name (un) 344**]
   want to worsen resp distress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-05-17 07:20:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
 FEVER - 103.0
F - [**2170-5-17**] 12:00 AM
   - HIV, pcp negative
   [**Name Initial (PRE) **] sent [**Doctor First Name **], ANCA
   - changed CTX to Cefepime
   - continues to [**Last Name (LF) **], [**First Name3 (LF) **] far cultures negative
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-5-15**] 05:36 PM
   Azithromycin - [**2170-5-16**] 10:00 AM
   Vancomycin - [**2170-5-16**] 08:07 PM
   Cefipime - [**2170-5-17**] 12:29 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-16**] 04:00 PM
   Famotidine (Pepcid) - [**2170-5-16**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-17**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.3
C (101
   HR: 92 (85 - 94) bpm
   BP: 118/55(75) {99/48(64) - 133/63(86)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  2,422 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,322 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    643 mL
                                                                    400 mL
   Urine:
                                                                    643 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,779 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 58.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.31/47/90.[**Numeric Identifier 433**]/20/-2
   Ve: 9.2 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal: diffuse tenderness to palpation
   Skin:  warm and well perfused
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, person, place, Movement: Purposeful,
   Tone: wnl. AAO X 3, slightly tearful during exam. Follows commands.
   Decreased sensation to light touch entire left side including facial
   area. Motor: [**3-4**] upper extremity bilateral and [**4-3**] lower extremity
   bilateral.
   Labs / Radiology
   373 K/uL
   9.9 g/dL
   106 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   28 mg/dL
   110 mEq/L
   142 mEq/L
   29.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2170-5-15**]  08:45 PM
                             [**2170-5-15**]  11:14 PM
                             [**2170-5-16**]  02:55 AM
                             [**2170-5-16**]  03:45 AM
                             [**2170-5-16**]  03:59 AM
                             [**2170-5-16**]  06:56 AM
                             [**2170-5-16**]  02:43 PM
                             [**2170-5-16**]  05:11 PM
                             [**2170-5-17**]  04:44 AM
                             [**2170-5-17**]  05:00 AM
   WBC
   7.9
   8.7
   Hct
   31.1
   29.1
   Plt
   321
   373
   Cr
   0.6
   1.2
   TCO2
   25
   25
   28
   26
   27
   27
   26
   25
   Glucose
   93
   106
   Other labs: PT / PTT / INR:16.3/30.1/1.4, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:27/36, Alk Phos / T Bili:121/0.3,
   Differential-Neuts:78.2 %, Lymph:17.5 %, Mono:3.5 %, Eos:0.7 %, Lactic
   Acid:1.1 mmol/L, LDH:583 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress: [**1-1**] multi-focal pneumonia requiring intubation.
   Differential includes PNA secondary to staph, pneumococal, atypicals
   (Mycoplasma, Chlamyadia), aspiration PNA. Also on differential less
   common etiologies such as Histoplasma, Ehrlichia and Babesia.
   Legionella and influenza negative. Continues to have fevers. Also on
   differential is autoimmune etiology. S/p ceftriaxone.
   - continue vancomycin ([**5-13**] -
   - continue cefepime
   - continue azithro ([**5-13**] - )
   - consider adding doxycycline if patient
s clinical status worsens
   - consider gentle diuresis (goal: even to negative -500cc per 24 hrs)
   - f/u serologies for Mycoplasma, Chlamyadia, Histoplasma, Ehrlichia and
   Babesia
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx
   - f/u HIV test
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA to eval vasculitis
   - ID c/s
   - CIS
   - continue mechanical ventilation
   - follow ABGs
   - consider mini BAL
   # ARF: possibly pre-renal [**1-1**] hypotension, sepsis vs autoimmune
   vasculitis
   - monitor UOP
   - check urine lytes
   - goal even to -500cc per 24 hrs
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - Continue sedation
   # Tranaminitis: Trending down. Slight elevation in AST/ALT/alkphos but
   TBili wnl. Final CT abd/pelivs fatty liver only.
   - Trend LFTs daily.
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety: Continue sertraline.
   # DM: HISS
   ICU Care
   Nutrition:
   - nutrition consult for tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan with the following
   emphasis/changes:
   54 year old history of DM who presents with fever, cough, headache and
   found to have significant hypoxemia and multifocal pneumonia.  Worsened
   respiratory status requiring endotracheal intubation.
   Overnight, continues to have problems oxygenating and continues to have
   fevers.
   T 100.3   P 87    BP 116/60  RR  SaO2: 94% on PEEP 18, Fio2 0.6
   Gen: Intubated, sedated
   Chest: bilateral crackles and wheeze
   Heart: S1 S2 reg
   Abd: soft, NT ND
   Ext: No edema
   Neuro: sedated
   WBC: 8.7
   Plt: 273
   CXR: bilateral infiltrates
   Cultures: No growth
   ECHO: EF 55%, no vegetations, borderline pulmonary hypertension,
   1. Respiratory Failure secondary to Pneumonia
   a. Continue broad-spectrum antibiotics (Cefepime/Vanco/Azithro)
   b. ID consult to discuss additional coverage/other etiologies
   c. Increase PEEP and follow to see if improvement in oxygenation;
   maintain Fio2 of 0.6
   d. Maintain low tidal volume ventilation with goal plateau pressure <
   30 mmHg
   2. Headache: If respiratory status stabilizes, will perform LP
   3. Nausea/vomiting/diarrhea: resolved
   4. Depression/anxiety: continue Zoloft
   Addendum: At the end of the afternoon, patient
s oxygen saturation
   worsened.  We paralyzed patient with minimal improvement and increased
   PEEP from 18 to 20 with improvement in saturation from saturation from
   89% to 94%.  She still has room on her Fio2 and can bring up as needed
   overnight.  Hemodynamics remain stable.
   Critical Care Time: 90 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2170-5-17**] 11:46 PM ------

2170-05-18 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.7
F - [**2170-5-17**] 02:47 PM
   - continuing high fevers
   - weaning sedation slowing and reassing this AM
   - [**Doctor First Name **]/ANCA negative
   - ID: start oseltamivir, send off LCMV (lymphocytic choriomeningitis
   virus), resp viral panel
   - FeNa 0.2, Fe Urea 24
   - CVP 14
   - mild diuresis w lasix
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-5-15**] 05:36 PM
   Azithromycin - [**2170-5-17**] 10:16 AM
   Vancomycin - [**2170-5-17**] 08:00 PM
   Cefipime - [**2170-5-18**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-17**] 04:33 PM
   Furosemide (Lasix) - [**2170-5-17**] 05:15 PM
   Vecuronium - [**2170-5-17**] 08:10 PM
   Famotidine (Pepcid) - [**2170-5-17**] 09:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 38.1
C (100.5
   HR: 106 (85 - 106) bpm
   BP: 119/56(76) {105/50(69) - 133/65(123)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 16 (5 - 17)mmHg
   Total In:
                                                                  2,062 mL
                                                                    347 mL
   PO:
   TF:
                                                                    200 mL
   IVF:
                                                                  1,452 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    880 mL
   Urine:
                                                                  1,860 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    202 mL
                                                                   -533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 180 (180 - 249) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 43.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.32/52/74/21/0
   Ve: 11 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal: diffuse tenderness to palpation
   Skin:  warm and well perfused
   Labs / Radiology
   373 K/uL
   9.9 g/dL
   101 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   30 mg/dL
   112 mEq/L
   144 mEq/L
   29.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2170-5-16**]  02:43 PM
                             [**2170-5-16**]  05:11 PM
                             [**2170-5-17**]  04:44 AM
                             [**2170-5-17**]  05:00 AM
                             [**2170-5-17**]  01:09 PM
                             [**2170-5-17**]  05:01 PM
                             [**2170-5-17**]  05:14 PM
                             [**2170-5-17**]  09:59 PM
                             [**2170-5-18**]  04:43 AM
                             [**2170-5-18**]  06:04 AM
   WBC
   8.7
   Hct
   29.1
   Plt
   373
   Cr
   1.2
   1.0
   1.0
   TCO2
   27
   26
   25
   24
   24
   23
   28
   Glucose
   106
   155
   101
   Other labs: PT / PTT / INR:17.1/30.1/1.5, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:78.2 %, Lymph:17.5 %,
   Mono:3.5 %, Eos:0.7 %, Lactic Acid:1.9 mmol/L, LDH:583 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Assessment and Plan
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress: [**1-1**] multi-focal pneumonia requiring intubation.
   Differential includes PNA secondary to staph, pneumococal, atypicals
   (Mycoplasma, Chlamyadia), aspiration PNA. Also on differential less
   common etiologies such as Histoplasma, Ehrlichia and Babesia.
   Legionella and influenza negative. Continues to have fevers. Also on
   differential is autoimmune etiology. S/p ceftriaxone.
   - continue vancomycin ([**5-13**] -
   - continue cefepime
   - continue azithro ([**5-13**] - )
   - consider adding doxycycline if patient
s clinical status worsens
   - consider gentle diuresis (goal: even to negative -500cc per 24 hrs)
   - f/u serologies for Mycoplasma, Chlamyadia, Histoplasma, Ehrlichia and
   Babesia
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx
   - f/u HIV test
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA to eval vasculitis
   - ID c/s
   - CIS
   - continue mechanical ventilation
   - follow ABGs
   - consider mini BAL
   # ARF: possibly pre-renal [**1-1**] hypotension, sepsis vs autoimmune
   vasculitis
   - monitor UOP
   - check urine lytes
   - goal even to -500cc per 24 hrs
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - Continue sedation
   # Tranaminitis: Trending down. Slight elevation in AST/ALT/alkphos but
   TBili wnl. Final CT abd/pelivs fatty liver only.
   - Trend LFTs daily.
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety: Continue sertraline.
   # DM: HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-05-19 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 104.6
F - [**2170-5-18**] 08:47 AM
   - started paralytics
   - required PEEP of 20, RR of 30
   - changed TF to neutra pulm
   - viral cx negative
   - continued to have high fevers, due to concern about allergy, abx
   changed to meropenem and linezolid
   - started doxycycline
   - give 100mg hydrocortisone x 1
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2170-5-18**] 09:04 AM
   Vancomycin - [**2170-5-18**] 08:00 PM
   Cefipime - [**2170-5-18**] 08:00 PM
   Meropenem - [**2170-5-18**] 11:00 PM
   Linezolid - [**2170-5-18**] 11:30 PM
   Doxycycline - [**2170-5-19**] 04:00 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.6
   Tcurrent: 38.1
C (100.5
   HR: 86 (77 - 108) bpm
   BP: 98/42(60) {82/42(60) - 121/64(79)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 11 (11 - 14)mmHg
   Total In:
                                                                  3,454 mL
                                                                    886 mL
   PO:
   TF:
                                                                    606 mL
                                                                    354 mL
   IVF:
                                                                  2,398 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    360 mL
   Urine:
                                                                  1,920 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,534 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/45/90.[**Numeric Identifier 433**]/21/-3
   Ve: 10.9 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal: diffuse tenderness to palpation
   Skin:  warm and well perfused
   Labs / Radiology
   337 K/uL
   6.6 g/dL
   203 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   30 mg/dL
   109 mEq/L
   141 mEq/L
   20.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2170-5-17**]  09:59 PM
                             [**2170-5-18**]  04:43 AM
                             [**2170-5-18**]  06:04 AM
                             [**2170-5-18**]  12:42 PM
                             [**2170-5-18**]  02:03 PM
                             [**2170-5-18**]  02:26 PM
                             [**2170-5-18**]  05:15 PM
                             [**2170-5-18**]  10:41 PM
                             [**2170-5-19**]  04:10 AM
                             [**2170-5-19**]  04:45 AM
   WBC
   9.9
   8.6
   5.6
   Hct
   27.2
   26.5
   20.6
   Plt
   [**Telephone/Fax (3) 6786**]
   Cr
   1.0
   1.0
   0.9
   TCO2
   23
   28
   25
   26
   24
   27
   24
   Glucose
   101
   103
   203
   Other labs: PT / PTT / INR:15.4/30.1/1.3, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:81.5 %, Lymph:12.0 %,
   Mono:3.0 %, Eos:3.4 %, Lactic Acid:2.2 mmol/L, LDH:583 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress: [**1-1**] multi-focal pneumonia requiring intubation.
   Differential includes PNA secondary to staph, pneumococal, atypicals
   (Mycoplasma, Chlamyadia), aspiration PNA. Also on differential less
   common etiologies such as Histoplasma, Ehrlichia and Babesia.
   Legionella and influenza negative. Continues to have fevers. Autoimmune
   workup negative. S/p ceftriaxone.
   - continue vancomycin ([**5-13**] -
   - continue cefepime
   - continue azithro ([**5-13**] - )
   - continue oseltamivir ([**5-17**] - )
   - add doxycycline
   - pan-cx when spikes
   - consider gentle diuresis (goal: even to negative -500cc per 24 hrs)
   - f/u serologies for Mycoplasma, Chlamyadia, Histoplasma, Ehrlichia and
   Babesia
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx
   - f/u HIV test
   - ID c/s
   - continue mechanical ventilation
   - follow ABGs
   - consider mini BAL
   # ARF: possibly pre-renal [**1-1**] hypotension, sepsis. FeNa 0.2, Fe Urea
   24.
   - monitor UOP
   - goal even to -500cc per 24 hrs
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - Continue sedation
   # Tranaminitis: Trending down. Slight elevation in AST/ALT/alkphos but
   TBili wnl. Final CT abd/pelivs fatty liver only.
   - Trend LFTs daily.
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety: Continue sertraline.
   # DM: HISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-19**] 01:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-05-19 07:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ARDS
   Intubated x 4 days
   Remains febrile
   24 Hour Events:
 FEVER - 104.6
F - [**2170-5-18**] 08:47 AM
   Bronch this morning
   Antibiotics changed in case of drug fever
   Started on paralysis yesterday
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2170-5-18**] 09:04 AM
   Vancomycin - [**2170-5-18**] 08:00 PM
   Cefipime - [**2170-5-18**] 08:00 PM
   Meropenem - [**2170-5-18**] 11:00 PM
   Linezolid - [**2170-5-18**] 11:30 PM
   Doxycycline - [**2170-5-19**] 04:00 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-19**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.6
   Tcurrent: 38.1
C (100.5
   HR: 86 (77 - 108) bpm
   BP: 98/42(60) {82/42(60) - 121/64(79)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 11 (11 - 14)mmHg
   Total In:
                                                                  3,454 mL
                                                                    899 mL
   PO:
   TF:
                                                                    606 mL
                                                                    362 mL
   IVF:
                                                                  2,398 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    360 mL
   Urine:
                                                                  1,920 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,534 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/45/90.[**Numeric Identifier 433**]/21/-3
   Ve: 10.9 L/min
   PaO2 / FiO2: 90
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.6 g/dL
   337 K/uL
   203 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   30 mg/dL
   109 mEq/L
   141 mEq/L
   20.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2170-5-17**]  09:59 PM
                             [**2170-5-18**]  04:43 AM
                             [**2170-5-18**]  06:04 AM
                             [**2170-5-18**]  12:42 PM
                             [**2170-5-18**]  02:03 PM
                             [**2170-5-18**]  02:26 PM
                             [**2170-5-18**]  05:15 PM
                             [**2170-5-18**]  10:41 PM
                             [**2170-5-19**]  04:10 AM
                             [**2170-5-19**]  04:45 AM
   WBC
   9.9
   8.6
   5.6
   Hct
   27.2
   26.5
   20.6
   Plt
   [**Telephone/Fax (3) 6786**]
   Cr
   1.0
   1.0
   0.9
   TCO2
   23
   28
   25
   26
   24
   27
   24
   Glucose
   101
   103
   203
   Other labs: PT / PTT / INR:15.4/30.1/1.3, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:81.5 %, Lymph:12.0 %,
   Mono:3.0 %, Eos:3.4 %, Lactic Acid:2.2 mmol/L, LDH:583 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 PNEUMONIA/ARDS/respiratory failure
 await today
s BAL, continue
   current abx regimen, wean vent as tolerated
   Hypotension
 follow BP, diurese as possible
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 continue
   to culture
   Anemia
 repeat, transfuse as needed
   DM
 on SSI
   ICU Care
   Nutrition:  TF
   Nutren Pulmonary (Full) - [**2170-5-19**] 01:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-5-13**] 07:49 PM
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition : ICU
   Total time spent:   39

2170-05-20 07:21:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - stopped paralytics
   - stopped tamiflu, switched doxy to azithro
   - repeat CBC improved (20 --> 26)
   - cortisol level nl
   - tried to diurese, but BP did not tolerate
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2170-5-18**] 09:04 AM
   Vancomycin - [**2170-5-18**] 08:00 PM
   Cefipime - [**2170-5-18**] 08:00 PM
   Doxycycline - [**2170-5-19**] 04:00 AM
   Linezolid - [**2170-5-19**] 11:00 PM
   Meropenem - [**2170-5-20**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-20**] 12:00 AM
   Furosemide (Lasix) - [**2170-5-20**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-20**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 74 (72 - 102) bpm
   BP: 101/49(67) {93/41(57) - 120/58(80)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 12 (7 - 18)mmHg
   Total In:
                                                                  2,967 mL
                                                                    712 mL
   PO:
   TF:
                                                                    935 mL
                                                                    293 mL
   IVF:
                                                                  1,662 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    765 mL
   Urine:
                                                                  1,150 mL
                                                                    760 mL
   NG:
                                                                    100 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,717 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 38 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/39/95.[**Numeric Identifier **]/21/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   HEENT: swollen mouth
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal: diffuse tenderness to palpation
   Skin:  warm and well perfused
   Labs / Radiology
   571 K/uL
   8.5 g/dL
   87 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   37 mg/dL
   111 mEq/L
   144 mEq/L
   26.2 %
   11.3 K/uL
        [image002.jpg]
                             [**2170-5-19**]  04:10 AM
                             [**2170-5-19**]  04:45 AM
                             [**2170-5-19**]  09:53 AM
                             [**2170-5-19**]  02:05 PM
                             [**2170-5-19**]  04:33 PM
                             [**2170-5-19**]  08:11 PM
                             [**2170-5-19**]  08:25 PM
                             [**2170-5-20**]  12:38 AM
                             [**2170-5-20**]  04:38 AM
                             [**2170-5-20**]  04:53 AM
   WBC
   5.6
   8.0
   12.3
   11.3
   Hct
   20.6
   26.3
   25.2
   26.2
   Plt
   [**Telephone/Fax (3) 6812**]71
   Cr
   0.9
   1.0
   TCO2
   24
   25
   24
   25
   25
   26
   Glucose
   203
   87
   Other labs: PT / PTT / INR:14.2/30.0/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:81.5 %, Lymph:12.0 %,
   Mono:3.0 %, Eos:3.4 %, Lactic Acid:1.7 mmol/L, LDH:583 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress: [**1-1**] multi-focal pneumonia and pulmonary edema.
   Differential includes PNA secondary to staph, pneumococal, atypicals
   (Mycoplasma, Chlamyadia), aspiration PNA. Also on differential less
   common etiologies such as Histoplasma, Ehrlichia, Coxiella. Babesia,
   Legionella and influenza negative. Continues to have fevers. Autoimmune
   workup negative ([**Doctor First Name **]/ANCA). HIV negative. S/p ceftriaxone, cefepime,
   vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**]) Off steroids. Off
   paralytics.
   - continue meropenem ([**5-18**] - )
   - continue linezolid ([**5-18**] - )
   - switched doxycycline to azithromycin ([**5-19**] - )
   - consider gentle diuresis (goal: even to negative -500cc per 24 hrs)
   - pan-cx when spikes
   - BAL today, f/u results
   - f/u serologies for Mycoplasma, Chlamyadia, Histoplasma, Ehrlichia
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx
   - ID recs
   - continue mechanical ventilation, decrease FiO2 as tolerated
   - follow ABGs
   # Face swelling: unclear etiology
 volume overload (dependent edema)
   vs angioedema from drug rxn vs possible clot
   - reverse trendelenburg positioin
   - consider b/l UE U/S for DVT eval
   - try to diurese as tolerated by BP
   - diphenhydramine, famotidine for possible drug allergy
   # Anemia: likely dilutional earlier, now stable ~26
   - monitor Hct
   - T+S
   # ARF: possibly pre-renal [**1-1**] hypotension, sepsis. FeNa 0.2, Fe Urea
   24. Resolving, stable ~1.0
   - monitor UOP
   - goal even to -500cc per 24 hrs
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - Continue sedation
   # Tranaminitis: Trending down. Slight elevation in AST/ALT/alkphos but
   TBili wnl. Final CT abd/pelivs fatty liver only.
   - Trend LFTs daily.
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety: Continue sertraline.
   # DM: HISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-20**] 02:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:

2170-05-20 08:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 FEVER - 101.3
F - [**2170-5-19**] 04:00 PM
   BP remains tenuous
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Active Antibiotics:
   Azithromycin - [**2170-5-18**] 09:04 AM
   Linezolid - [**2170-5-19**] 11:00 PM
   Meropenem - [**2170-5-20**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-20**] 12:00 AM
   Furosemide (Lasix) - [**2170-5-20**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-20**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 74 (72 - 98) bpm
   BP: 101/49(67) {93/42(58) - 120/58(80)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 12 (7 - 18)mmHg
   Total In:
                                                                  2,967 mL
                                                                    760 mL
   PO:
   TF:
                                                                    935 mL
                                                                    326 mL
   IVF:
                                                                  1,662 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    765 mL
   Urine:
                                                                  1,150 mL
                                                                    760 mL
   NG:
                                                                    100 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,717 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 38 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/39/95.[**Numeric Identifier **]/21/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Edematous, intubated, sedated, unresponsive
   Coarse vented BS
   Hrt rrr
   Abd benign
   Extrem edematous
   Labs / Radiology
   8.5 g/dL
   571 K/uL
   87 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   37 mg/dL
   111 mEq/L
   144 mEq/L
   26.2 %
   11.3 K/uL
                             [**2170-5-19**]  04:10 AM
                             [**2170-5-19**]  04:45 AM
                             [**2170-5-19**]  09:53 AM
                             [**2170-5-19**]  02:05 PM
                             [**2170-5-19**]  04:33 PM
                             [**2170-5-19**]  08:11 PM
                             [**2170-5-19**]  08:25 PM
                             [**2170-5-20**]  12:38 AM
                             [**2170-5-20**]  04:38 AM
                             [**2170-5-20**]  04:53 AM
   WBC
   5.6
   8.0
   12.3
   11.3
   Hct
   20.6
   26.3
   25.2
   26.2
   Plt
   [**Telephone/Fax (3) 6812**]71
   Cr
   0.9
   1.0
   TCO2
   24
   25
   24
   25
   25
   26
   Glucose
   203
   87
   Other labs: PT / PTT / INR:14.2/30.0/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:81.5 %, Lymph:12.0 %,
   Mono:3.0 %, Eos:3.4 %, Lactic Acid:1.7 mmol/L, LDH:583 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   CXr stable bilateral infiltrates
   Assessment and Plan
 PNEUMONIA / ARDS / respiratory failure
 micro remain unrevealing,
   continue current abx regimen, wean vent as tolerated
 decrease RR and
   FiO2 today
   Hypotension
 follow BP, diurese as possible
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 continue
   to culture, will stop azithro
   Facial and upper extremity swelling
 will ultrasound UE
s and neck,
   start benadryl ? angioedema
   Anemia
 repeat, transfuse as needed
   DM
 on SSI
   h/o CAD
 on ASA, statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-20**] 02:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition :   ICU
   Total time spent:   38

2170-05-21 07:28:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 ULTRASOUND - At [**2170-5-20**] 11:30 AM
   upper extremities and neck
 FEVER - 103.4
F - [**2170-5-21**] 05:00 AM
   - ID recs: continue Azithromycin due to seronegative types of
   Legionella, drug fever most likely [**1-1**] cefepime
   - Facial/tongue swelling: benadryl, famotidine for allergic reaction;
   U/S upper extremity negative
   - Not able to decrease RR or Fi02
   - Lasix 40 mg IV X 2
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2170-5-18**] 09:04 AM
   Cefipime - [**2170-5-18**] 08:00 PM
   Vancomycin - [**2170-5-18**] 08:00 PM
   Doxycycline - [**2170-5-19**] 04:00 AM
   Linezolid - [**2170-5-20**] 11:00 PM
   Meropenem - [**2170-5-21**] 12:25 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2170-5-20**] 04:00 PM
   Furosemide (Lasix) - [**2170-5-20**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-21**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 39.8
C (103.6
   HR: 100 (73 - 100) bpm
   BP: 111/59(77) {87/38(57) - 123/59(347)} mmHg
   RR: 26 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 5 (3 - 14)mmHg
   Total In:
                                                                  3,411 mL
                                                                    692 mL
   PO:
   TF:
                                                                    906 mL
                                                                    299 mL
   IVF:
                                                                  2,075 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  2,995 mL
                                                                  1,240 mL
   Urine:
                                                                  2,990 mL
                                                                  1,240 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                   -548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 39 cmH2O
   SpO2: 97%
   ABG: 7.41/45/109/25/2
   Ve: 10 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   HEENT: swollen mouth
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes and squeaking
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal: diffuse tenderness to palpation
   Skin:  warm and well perfused
   Labs / Radiology
   591 K/uL
   9.0 g/dL
   116 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   38 mg/dL
   109 mEq/L
   149 mEq/L
   27.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2170-5-19**]  04:33 PM
                             [**2170-5-19**]  08:11 PM
                             [**2170-5-19**]  08:25 PM
                             [**2170-5-20**]  12:38 AM
                             [**2170-5-20**]  04:38 AM
                             [**2170-5-20**]  04:53 AM
                             [**2170-5-20**]  10:05 AM
                             [**2170-5-20**]  05:12 PM
                             [**2170-5-21**]  04:33 AM
                             [**2170-5-21**]  05:09 AM
   WBC
   12.3
   11.3
   12.4
   Hct
   25.2
   26.2
   27.1
   Plt
   [**Telephone/Fax (3) 6826**]
   Cr
   1.0
   1.0
   TCO2
   24
   25
   25
   26
   23
   26
   30
   Glucose
   87
   116
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:81.5 %, Lymph:12.0 %,
   Mono:3.0 %, Eos:3.4 %, Lactic Acid:1.5 mmol/L, LDH:583 IU/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers: [**1-1**] multi-focal pneumonia and pulmonary
   edema, of unknown cause. Also on differential less common etiologies
   such as Histoplasma, Ehrlichia, Coxiella. Babesia. Continues to have
   fevers. Autoimmune workup negative ([**Doctor First Name **]/ANCA). HIV negative. S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   Off steroids. Off paralytics. See below for discussion about facial
   swelling. Abx had been changed on [**5-18**] due to concern about drug
   reaction. Mycoplasma and chlamydia negative. PCP [**Name Initial (PRE) 5324**]. BAL with
   polys but no organism, 1% eosinophils.  Flu/viral negative. Legionella
   negative. Sputum with only yeast. Ehrlichia and Babesia negative.
   - pending b-glucan and gulactomannan
   - continue meropenem ([**5-18**] - ) (8 day course)
   - restart vanco ([**5-21**]- ) and stop linezolid, 8 day course starting [**5-21**]
   - switched doxycycline to azithromycin ([**5-19**] - ), will continue to
   cover legionella types not covered by micro test
   - gentle diuresis (goal: even to negative -500cc per 24 hrs), will give
   lasix 40mg IV x1
   - f/u serologies for LCM, Histoplasma
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture daily with
   fever
   - ID recs
   - continue mechanical ventilation, decrease PEEP from 20 to 18
   # Face swelling: unclear etiology
 volume overload (dependent edema)
   vs angioedema from drug rxn vs possible clot. u/s of upper ext without
   clot, but cannot rule out SVC without CT scan.  At this point treating
   for drug reaction.
   - try to diurese as tolerated by BP
   - diphenhydramine, famotidine for possible drug allergy
   - stopping linezolid, changing back to vanco
   - will start steriods, however, risk for myopathy since been on
   paralytics
   # Anemia: likely dilutional earlier, now stable ~26
   - monitor Hct
   - T+S
   # ARF: possibly pre-renal [**1-1**] hypotension, sepsis. FeNa 0.2, Fe Urea
   24. Resolving, stable ~1.0
   - monitor UOP
   - goal even to -500cc per 24 hrs
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - Continue sedation
   # Tranaminitis: Trending down. Slight elevation in AST/ALT/alkphos but
   TBili wnl. Final CT abd/pelivs fatty liver only.
   - Trend LFTs
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - reduced to
 dose sertraline since been on linezolid and risk of
   seritonin syndrome
   # DM: HISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-20**] 02:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-14**] 12:18 PM
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   Comm: with daughters
   DISPO: continue ICU care for now

2170-05-21 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains with swollen tongue/lips.
   Remains sedated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2170-5-18**] 08:00 PM
   Vancomycin - [**2170-5-18**] 08:00 PM
   Doxycycline - [**2170-5-19**] 04:00 AM
   Linezolid - [**2170-5-20**] 11:00 PM
   Meropenem - [**2170-5-21**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-20**] 04:00 PM
   Furosemide (Lasix) - [**2170-5-20**] 11:00 PM
   Famotidine (Pepcid) - [**2170-5-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash, Swelling of tongue
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-21**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.5
C (101.3
   HR: 81 (73 - 100) bpm
   BP: 89/40(57) {89/40(57) - 123/59(347)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 5 (3 - 14)mmHg
   Total In:
                                                                  3,411 mL
                                                                  1,176 mL
   PO:
   TF:
                                                                    906 mL
                                                                    435 mL
   IVF:
                                                                  2,075 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                  2,995 mL
                                                                  1,445 mL
   Urine:
                                                                  2,990 mL
                                                                  1,445 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 35 cmH2O
   SpO2: 97%
   ABG: 7.37/50/113/25/1
   Ve: 9.7 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   591 K/uL
   116 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   38 mg/dL
   109 mEq/L
   149 mEq/L
   27.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2170-5-19**]  08:11 PM
                             [**2170-5-19**]  08:25 PM
                             [**2170-5-20**]  12:38 AM
                             [**2170-5-20**]  04:38 AM
                             [**2170-5-20**]  04:53 AM
                             [**2170-5-20**]  10:05 AM
                             [**2170-5-20**]  05:12 PM
                             [**2170-5-21**]  04:33 AM
                             [**2170-5-21**]  05:09 AM
                             [**2170-5-21**]  07:57 AM
   WBC
   12.3
   11.3
   12.4
   Hct
   25.2
   26.2
   27.1
   Plt
   [**Telephone/Fax (3) 6826**]
   Cr
   1.0
   1.0
   TCO2
   25
   25
   26
   23
   26
   30
   30
   Glucose
   87
   116
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:81.5 %, Lymph:12.0 %,
   Mono:3.0 %, Eos:3.4 %, Lactic Acid:1.5 mmol/L, LDH:583 IU/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology.
   RESPIRATORY FAILURE -- persistent.  Attributed to LLL pneumonia,
   possible ARDS.  Now possible VAP.  Continue mechanical ventilation.
   Aim for pH= 7.35-7.40, SaO2 >90%.  Treat oral swelling.  Begin tapering
   sedation as tolerated.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.  Now
   with concern for VAP(green purulent sputum by BAL) --> plan targetd
   antimicorbials.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Concern includes
   Linazolid, Meropenim.  Consider empirical steroids.
   PNEUMONIA / ARDS / respiratory failure
 micro remain unrevealing,
   continue current abx regimen, wean vent as tolerated
 decrease RR and
   FiO2 today.  Meropenim, Linazolid per ID service.
   HYPOTENSION -- follow BP, diurese as possible
   FLUIDS -- desire net negative balance.  Monitor I/O.
   FEVER
 unclear [**Name2 (NI) **].  Concern includes continue to culture, will
   stop azithro
   ANEMIA -- repeat, transfuse as needed
   NIDDM
 monitor glucose, continue insulin.  Maintain glucose <150.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-21**] 04:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-22 06:28:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events:
 BLOOD CULTURED - At [**2170-5-21**] 08:22 AM
 FEVER - 103.7
F - [**2170-5-21**] 06:00 PM
   - was febrile still, recultured, and placed on cooling blanket, given
   motrin 600mg x 1
   - changed back from linezolid to vanco
   - per ID, stopped azithro and changed back to doxy, they feel fevers
   are caused by azithro; also wanted a second and third c. diff
   - decreased PEEP to 16
   - started steriods
   - given lasix 40mg IV x 1, had UO of 1.1 liters
   - elevated blood sugars >250, so increased SSI
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Linezolid - [**2170-5-20**] 11:00 PM
   Vancomycin - [**2170-5-21**] 08:00 PM
   Doxycycline - [**2170-5-21**] 08:00 PM
   Meropenem - [**2170-5-22**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 6.4 mg/hour
   Fentanyl (Concentrate) - 320 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-21**] 07:30 PM
   Famotidine (Pepcid) - [**2170-5-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-22**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 38.5
C (101.3
   HR: 79 (75 - 100) bpm
   BP: 120/58(81) {89/40(57) - 135/94(109)} mmHg
   RR: 28 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  2,978 mL
                                                                    604 mL
   PO:
   TF:
                                                                    963 mL
                                                                    258 mL
   IVF:
                                                                  1,485 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  3,413 mL
                                                                    520 mL
   Urine:
                                                                  3,413 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -435 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   SpO2: 95%
   ABG: 7.44/46/82.[**Numeric Identifier **]/29/5
   Ve: 10.5 L/min
   PaO2 / FiO2: 151
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated, cooling
   blanket in place
   HEENT: lips and tongue remain swollen, ET tube well secured
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds, no
   m/r/g appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anterior and posterior crackles throughout, No(t) Bronchial: , Wheezes
   : end expiratory wheezes
   Abdominal: Soft, Bowel sounds present, non-tender, nondistended
   Musculoskeletal:
   Skin:  warm and well perfused
   HEENT: Lips and Tongue remain swollen, ET tube well secured
   LUNGS:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   523 K/uL
   7.9 g/dL
   225 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   42 mg/dL
   109 mEq/L
   148 mEq/L
   23.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2170-5-20**]  10:05 AM
                             [**2170-5-20**]  05:12 PM
                             [**2170-5-21**]  04:33 AM
                             [**2170-5-21**]  05:09 AM
                             [**2170-5-21**]  07:57 AM
                             [**2170-5-21**]  05:24 PM
                             [**2170-5-21**]  10:42 PM
                             [**2170-5-22**]  01:58 AM
                             [**2170-5-22**]  04:20 AM
                             [**2170-5-22**]  04:48 AM
   WBC
   12.4
   9.7
   Hct
   27.1
   23.8
   Plt
   591
   523
   Cr
   1.0
   0.8
   TCO2
   23
   26
   30
   30
   28
   27
   34
   32
   Glucose
   116
   225
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:82.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:3.0 %, Lactic Acid:1.1 mmol/L, LDH:583
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers: [**1-1**] multi-focal pneumonia and pulmonary
   edema, of unknown cause. Also on differential less common etiologies
   such as Histoplasma, Ehrlichia, Coxiella. Babesia. Continues to have
   fevers. Autoimmune workup negative ([**Doctor First Name **]/ANCA). HIV negative. S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   Off steroids. Off paralytics. See below for discussion about facial
   swelling. Abx had been changed on [**5-18**] due to concern about drug
   reaction. Mycoplasma and chlamydia negative. PCP [**Name Initial (PRE) 5324**]. BAL with
   polys but no organism, 1% eosinophils.  Flu/viral negative. Legionella
   negative. Sputum with only yeast. Ehrlichia and Babesia negative.
   - pending b-glucan and gulactomannan
   - continue meropenem ([**5-18**] - ) (8 day course)
   - restart vanco ([**5-21**]- ) and stop linezolid, 8 day course starting [**5-21**]
   - switched doxycycline to azithromycin ([**5-19**] - ), will continue to
   cover legionella types not covered by micro test
   - Diuresis (goal: even to negative -1 L per 24 hrs),  discontinue
   scheduled lasix at midnight
   - f/u serologies for LCM, Histoplasma
   - f/u urine S. pneumoniae AG
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture daily with
   fever
   - Contact ID to discuss case
   - continue mechanical ventilation, decrease FiO2 to 50%, maintain PEEP
   at 18
   - decrease sedation 20% per day
   # Face swelling: unclear etiology
 [**Name (NI) 6855**] likely angioedema [**1-1**] drug
   reaction and interval improvement after stopping likely drugs.  Patient
   remains 5L positive on fluids so volume overload (dependent edema) is
   less likely due to interval improvement from yesterdav.  u/s of upper
   ext without clot, but cannot rule out SVC without CT scan.  At this
   point treating for drug reaction.
   -diphenhydramine, famotidine for possible drug allergy
   - Continue with Vanco, Linezolid to remain stopped due to possible
   cause of angioedema
   - will start steriods, however, risk for myopathy since been on
   paralytics
   # Anemia: likely dilutional earlier, now stable ~26
   - monitor Hematocrit
   - T+S
   # ARF: possibly pre-renal [**1-1**] hypotension, sepsis. FeNa 0.2, Fe Urea
   24. Resolving, stable ~1.0
   - monitor UOP
   - Serum Na
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - Continue sedation
   # Tranaminitis: Trending down. Slight elevation in AST/ALT/alkphos but
   TBili wnl. Final CT abd/pelivs fatty liver only.
   - Trend LFTs
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   # DM: HISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-22**] 05:34 AM 40 mL/hour
   Glycemic Control:  on HISS
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-05-22 10:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   PEEP lowerd.
   T= 103.7
F last PM, lower now but on cooling blanket.
   Antimicrobials adjusted.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Linezolid - [**2170-5-20**] 11:00 PM
   Meropenem - [**2170-5-22**] 08:00 AM
   Doxycycline - [**2170-5-22**] 08:00 AM
   Vancomycin - [**2170-5-22**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4.8 mg/hour
   Fentanyl (Concentrate) - 240 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-21**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-22**] 08:00 AM
   Famotidine (Pepcid) - [**2170-5-22**] 08:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-22**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.7
C (99.9
   HR: 77 (75 - 100) bpm
   BP: 115/61(82) {95/43(62) - 135/94(109)} mmHg
   RR: 28 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 11 (6 - 13)mmHg
   Total In:
                                                                  2,978 mL
                                                                  1,343 mL
   PO:
   TF:
                                                                    963 mL
                                                                    426 mL
   IVF:
                                                                  1,485 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                  3,413 mL
                                                                    730 mL
   Urine:
                                                                  3,413 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -435 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   SpO2: 97%
   ABG: 7.44/46/82.[**Numeric Identifier **]/29/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 151
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Swollen tongue/lips
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   523 K/uL
   225 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   42 mg/dL
   109 mEq/L
   148 mEq/L
   23.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2170-5-20**]  10:05 AM
                             [**2170-5-20**]  05:12 PM
                             [**2170-5-21**]  04:33 AM
                             [**2170-5-21**]  05:09 AM
                             [**2170-5-21**]  07:57 AM
                             [**2170-5-21**]  05:24 PM
                             [**2170-5-21**]  10:42 PM
                             [**2170-5-22**]  01:58 AM
                             [**2170-5-22**]  04:20 AM
                             [**2170-5-22**]  04:48 AM
   WBC
   12.4
   9.7
   Hct
   27.1
   23.8
   Plt
   591
   523
   Cr
   1.0
   0.8
   TCO2
   23
   26
   30
   30
   28
   27
   34
   32
   Glucose
   116
   225
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:82.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:3.0 %, Lactic Acid:1.1 mmol/L, LDH:583
   IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology.
   RESPIRATORY FAILURE -- persistent.  Attributed to LLL pneumonia,
   possible ARDS.  Now possible VAP.  Continue mechanical ventilation.
   Aim for pH= 7.35-7.40, SaO2 >90%.  Treat oral swelling.  Begin tapering
   sedation as tolerated.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.  Now
   with concern for VAP(green purulent sputum by BAL) --> plan targetd
   antimicorbials.  Continue Vanco, Meropenim, Doxicycline.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Continue steroids.
   PNEUMONIA / ARDS / respiratory failure
 micro remain unrevealing,
   continue current abx regimen, wean vent as tolerated
 decrease RR and
   FiO2 today.  Meropenim, Vanco, Doxicycline per ID service.
   HYPOTENSION -- follow BP, diurese as tolerated.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   ANEMIA -- repeat, transfuse as needed.  Now vaginal bleeding (minimal).
   VAGINAL BLEEDING
 need to confirm active mensces.  [**Month (only) 11**] require vaginal
   exam if increased and persistent.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   HYPERNATREMIA
 monitor.  [**Month (only) 11**] need free water replacement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-22**] 05:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-23 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2170-5-22**] 04:21 PM
 STOOL CULTURE - At [**2170-5-22**] 04:22 PM
 FEVER - 103.3
F - [**2170-5-23**] 04:00 AM
   -temp spike to 103.1 despite continued use of cooling blanket
   -lasix 40 mg IV x3
   -decreased FIO2 to 50%, PEEP remains at 16
   -RR rate increased to 40s, sedation up titrated
   -Sodium improving, crit trending up
   -vanco levels appropriate based on trough of 18.4
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Linezolid - [**2170-5-20**] 11:00 PM
   Doxycycline - [**2170-5-22**] 08:00 AM
   Vancomycin - [**2170-5-22**] 08:34 PM
   Meropenem - [**2170-5-22**] 11:05 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-22**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-22**] 11:00 PM
   Furosemide (Lasix) - [**2170-5-23**] 02:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-23**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 100 (75 - 101) bpm
   BP: 112/86(98) {100/51(69) - 149/92(115)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 6 (5 - 13)mmHg
   Total In:
                                                                  3,464 mL
                                                                    504 mL
   PO:
   TF:
                                                                    960 mL
                                                                    235 mL
   IVF:
                                                                  1,505 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  3,721 mL
                                                                  1,420 mL
   Urine:
                                                                  3,721 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -257 mL
                                                                   -916 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 34 cmH2O
   Compliance: 20.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/52/101/31/8
   Ve: 10.8 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gerneral: pt sedated, intubated, lying in bed
   HEENT: ETT well secured, swelling of lips reduced since yesterday, Left
   IJ in place with no signs of infection, moist mucous membranes
   CV: regular rate and rhythm, no murmurs gallops or rubs.
   Lungs: Diffuse crackles bilaterally in all lung fields, auscultated
   anteriorly
   Abd: Soft, +BS, non-distended
   Ext: no cyanosis or edema in extremities.   Pulses palbable bilaterally
   in both lower extremities.
   Labs / Radiology
   694 K/uL
   8.9 g/dL
   216 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.1 mEq/L
   43 mg/dL
   101 mEq/L
   144 mEq/L
   26.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2170-5-22**]  01:58 AM
                             [**2170-5-22**]  04:20 AM
                             [**2170-5-22**]  04:48 AM
                             [**2170-5-22**]  12:46 PM
                             [**2170-5-22**]  01:49 PM
                             [**2170-5-22**]  05:23 PM
                             [**2170-5-22**]  09:36 PM
                             [**2170-5-23**]  03:37 AM
                             [**2170-5-23**]  03:59 AM
                             [**2170-5-23**]  04:33 AM
   WBC
   9.7
   11.1
   Hct
   23.8
   24.7
   26.9
   Plt
   523
   694
   Cr
   0.8
   0.8
   TCO2
   34
   32
   34
   32
   33
   39
   36
   Glucose
   225
   216
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:583
   IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL, Vanc trough 18.4
   Microbiology: [**5-21**] BCx with gram positive cocci in clusters in
   anaerobic bottle
   [**5-23**] CXR: Patient with no interval change, poor quality film with
   diffuse infiltrates bilaterally.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:.  Respiratory distress/fevers likely [**1-1**]
   multi-focal pneumonia and pulmonary edema, of unknown cause. Also on
   differential less common etiologies such as Histoplasma, Ehrlichia,
   Coxiella. Babesia. Continues to have fevers. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement). HIV negative. S/p ceftriaxone, cefepime,
   vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**]) Off steroids. Off
   paralytics. Abx had been changed on [**5-18**] due to concern about drug
   reaction. Mycoplasma and chlamydia negative. PCP [**Name Initial (PRE) 5324**]. BAL with
   polys but no organism, 1% eosinophils.  Flu/viral negative. Legionella
   negative. Sputum with only yeast. Ehrlichia and Babesia negative.
   B-glucan and aspergillous negative. Urine Histo Ag negative.
   - continue meropenem ([**5-18**] - ) (8 day course)
   - continue vanco ([**5-21**]- ) for 8 day course
   - continue vanc at current dose, vanc trough 18.4.
    - Continue doxycycline
   - Diuresis (goal:  -1 L per 24 hrs),  give 40mg lasix x 1
   - Pending labs results: urine S. pneumo AG, LCMV
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture if  fever
   continues and clinically declines
   - continue mechanical ventilation, consider lowering PEEP, Maintain
   FiO2 at 50%
   - decrease sedation 20% per day if possible without causing ventilator
   dysynchrony.
   - C. Diff Neg x 2
   - Continue to follow ID recs
   - repleat phosphorous
   - CT sinus and CT Torso with
   #Fevers: Pt with continued high fevers despite interventions and
   cooling blanket.  Infectious vs. drug side effect vs. rhematic vs.
   atelectasis.  Unknown infectious cause being treated with abx as
   above.  Possibility that drug side effect given the amount of abx pt is
   on.  Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).
   Atelectasis unlikely [**1-1**] degree of fever.
   - continue cooling blanket and tylenol
   - f/u on positive Bcx on [**5-24**] when finalized
   - f/u on Ucx
   - CT sinus and CT Torso with contrast to evaluate sinuses (per pt hx of
   dental work) and possible infectious abscess, respectively.
   # Face swelling: Improving after cessastion of Linezolid.  unclear
   etiology
 [**Name (NI) 6855**] likely angioedema [**1-1**] drug reaction u/s of upper ext
   without clot, but cannot rule out SVC without CT scan.  At this point
   treating for drug reaction.
   - diphenhydramine, famotidine for possible drug allergy
   - Continue with Vanco, Meropenem and Doxycycline
   - Reduce methylprednisilone to 20mg IV q24 hr, monitor.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S
   # ARF: Resolving, stable ~1.0
   - monitor creatinine (stabilized) and UOP
   - monitor sodium
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - On Sedation
   # Tranaminitis: Elevated since last check on [**2170-5-17**].  previously,
   slight elevation in AST/ALT/alkphos but TBili wnl. Previous CT
   abd/pelivs fatty liver only.
   - RUQ U/S to evaluate acalculous cholecystitis
   -Trend LFT
   - Review CT Torso, ordered for continued FUO
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   # DM: HISS, increased due to elevated am glucose
   - [**Doctor Last Name 6877**] glargine to 12 units qhs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-23**] 02:11 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: Continued management of vent

2170-05-23 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Continues to exhibit persistent fevers overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Linezolid - [**2170-5-20**] 11:00 PM
   Vancomycin - [**2170-5-23**] 08:12 AM
   Doxycycline - [**2170-5-23**] 08:12 AM
   Meropenem - [**2170-5-23**] 08:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-23**] 02:34 AM
   Famotidine (Pepcid) - [**2170-5-23**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2170-5-23**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-23**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 96 (75 - 101) bpm
   BP: 148/74(97) {100/51(69) - 149/92(115)} mmHg
   RR: 28 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 6 (5 - 13)mmHg
   Total In:
                                                                  3,464 mL
                                                                  1,331 mL
   PO:
   TF:
                                                                    960 mL
                                                                    390 mL
   IVF:
                                                                  1,505 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  3,721 mL
                                                                  1,835 mL
   Urine:
                                                                  3,721 mL
                                                                  1,835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -257 mL
                                                                   -503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 34 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/52/101/31/8
   Ve: 10.6 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Swollen tongue, decreased
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   694 K/uL
   216 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.1 mEq/L
   43 mg/dL
   101 mEq/L
   144 mEq/L
   26.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2170-5-22**]  01:58 AM
                             [**2170-5-22**]  04:20 AM
                             [**2170-5-22**]  04:48 AM
                             [**2170-5-22**]  12:46 PM
                             [**2170-5-22**]  01:49 PM
                             [**2170-5-22**]  05:23 PM
                             [**2170-5-22**]  09:36 PM
                             [**2170-5-23**]  03:37 AM
                             [**2170-5-23**]  03:59 AM
                             [**2170-5-23**]  04:33 AM
   WBC
   9.7
   11.1
   Hct
   23.8
   24.7
   26.9
   Plt
   523
   694
   Cr
   0.8
   0.8
   TCO2
   34
   32
   34
   32
   33
   39
   36
   Glucose
   225
   216
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:23/37, Alk Phos / T Bili:117/0.4,
   Amylase / Lipase:25/11, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:583
   IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology, ARDS.
   RESPIRATORY FAILURE -- persistent.  Attributed to LLL pneumonia,
   possible ARDS.  Now possible VAP.  Continue mechanical ventilation.
   Aim for pH= 7.35-7.40, SaO2 >90%.  Treat oral swelling.  Begin tapering
   sedation as tolerated.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.  Now
   with concern for VAP(green purulent sputum by BAL) --> plan targetd
   antimicorbials.  Continue Vanco, Meropenim, Doxicycline.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Improving.  Continue
   steroids.
   PNEUMONIA / ARDS / respiratory failure
 micro remain unrevealing,
   continue current abx regimen, wean vent as tolerated
 decrease RR and
   FiO2 today.  Meropenim, Vanco, Doxicycline per ID service.
   HYPOTENSION -- follow BP, diurese as tolerated.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   LACTIC ACIDOSIS
 recurrent, mild.  Monitor.
   ANEMIA -- repeat, transfuse as needed.  Now vaginal bleeding (minimal).
   VAGINAL BLEEDING
 need to confirm active mensces.  [**Month (only) 11**] require vaginal
   exam if increased and persistent.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   HYPERNATREMIA
 monitor.  [**Month (only) 11**] need free water replacement.
   NUTRITIONAL SUPPORT
 TF at goal.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-23**] 02:11 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-24 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.3
F - [**2170-5-23**] 08:00 AM
   [**5-23**]
   -Febrile 102, cooling blanket placed, last cx [**2-18**]
   -RUQ U/S final read - CBD 9mm = upper lim normal.
   -CT Sinus/maxilla and CT Torso with contrass done
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-23**] 08:00 PM
   Doxycycline - [**2170-5-23**] 08:00 PM
   Meropenem - [**2170-5-24**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-23**] 04:07 PM
   Famotidine (Pepcid) - [**2170-5-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-24**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39
C (102.2
   HR: 92 (77 - 99) bpm
   BP: 115/52(72) {100/47(64) - 156/139(146)} mmHg
   RR: 28 (23 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 7 (5 - 8)mmHg
   Total In:
                                                                  3,813 mL
                                                                    770 mL
   PO:
   TF:
                                                                    904 mL
                                                                    256 mL
   IVF:
                                                                  1,589 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  4,320 mL
                                                                  1,500 mL
   Urine:
                                                                  4,320 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -507 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/54/77.[**Numeric Identifier **]//9
   Ve: 9.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   694 K/uL
   8.9 g/dL
   216 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.1 mEq/L
   43 mg/dL
   101 mEq/L
   144 mEq/L
   26.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2170-5-22**]  04:48 AM
                             [**2170-5-22**]  12:46 PM
                             [**2170-5-22**]  01:49 PM
                             [**2170-5-22**]  05:23 PM
                             [**2170-5-22**]  09:36 PM
                             [**2170-5-23**]  03:37 AM
                             [**2170-5-23**]  03:59 AM
                             [**2170-5-23**]  04:33 AM
                             [**2170-5-23**]  09:22 PM
                             [**2170-5-24**]  04:09 AM
   WBC
   11.1
   Hct
   24.7
   26.9
   Plt
   694
   Cr
   0.8
   TCO2
   32
   34
   32
   33
   39
   36
   38
   37
   Glucose
   216
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:59/92, Alk Phos / T Bili:394/0.4,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, LDH:407
   IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:.  Respiratory distress/fevers likely [**1-1**]
   multi-focal pneumonia and pulmonary edema, of unknown cause. Also on
   differential less common etiologies such as Histoplasma, Ehrlichia,
   Coxiella. Babesia. Continues to have fevers. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement). HIV negative. S/p ceftriaxone, cefepime,
   vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**]) Off steroids. Off
   paralytics. Abx had been changed on [**5-18**] due to concern about drug
   reaction. Mycoplasma and chlamydia negative. PCP [**Name Initial (PRE) 5324**]. BAL with
   polys but no organism, 1% eosinophils.  Flu/viral negative. Legionella
   negative. Sputum with only yeast. Ehrlichia and Babesia negative.
   B-glucan and aspergillous negative. Urine Histo Ag negative.
   - continue meropenem ([**5-18**] - ) (8 day course)
   - continue vanco ([**5-21**]- ) for 8 day course
   - continue vanc at current dose, vanc trough 18.4.
    - Continue doxycycline
   - Diuresis (goal:  -1 L per 24 hrs),  give 40mg lasix x 1
   - Pending labs results: urine S. pneumo AG, LCMV
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture if  fever
   continues and clinically declines
   - continue mechanical ventilation, consider lowering PEEP, Maintain
   FiO2 at 50%
   - decrease sedation 20% per day if possible without causing ventilator
   dysynchrony.
   - C. Diff Neg x 2
   - Continue to follow ID recs
   - repleat phosphorous
   - CT sinus and CT Torso with
   #Fevers: Pt with continued high fevers despite interventions and
   cooling blanket.  Infectious vs. drug side effect vs. rhematic vs.
   atelectasis.  Unknown infectious cause being treated with abx as
   above.  Possibility that drug side effect given the amount of abx pt is
   on.  Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).
   Atelectasis unlikely [**1-1**] degree of fever.
   - continue cooling blanket and tylenol
   - f/u on positive Bcx on [**5-24**] when finalized
   - f/u on Ucx
   - CT sinus and CT Torso with contrast to evaluate sinuses (per pt hx of
   dental work) and possible infectious abscess, respectively.
   # Face swelling: Improving after cessastion of Linezolid.  unclear
   etiology
 [**Name (NI) 6855**] likely angioedema [**1-1**] drug reaction u/s of upper ext
   without clot, but cannot rule out SVC without CT scan.  At this point
   treating for drug reaction.
   - diphenhydramine, famotidine for possible drug allergy
   - Continue with Vanco, Meropenem and Doxycycline
   - Reduce methylprednisilone to 20mg IV q24 hr, monitor.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S
   # ARF: Resolving, stable ~1.0
   - monitor creatinine (stabilized) and UOP
   - monitor sodium
   - renally dose meds
   - avoid nephrotoxins
   # Headache: Chronic. CT head unremarkable. Prior to admission MRI/MRA
   unremarkable. Low suspicion of meningitis on admission.
   - On Sedation
   # Tranaminitis: Elevated since last check on [**2170-5-17**].  previously,
   slight elevation in AST/ALT/alkphos but TBili wnl. Previous CT
   abd/pelivs fatty liver only.
   - RUQ U/S to evaluate acalculous cholecystitis
   -Trend LFT
   - Review CT Torso, ordered for continued FUO
   # HTN
 Hold outpatient metoprolol until BP stable.
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   # DM: HISS, increased due to elevated am glucose
   - [**Doctor Last Name 6877**] glargine to 12 units qhs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-24**] 04:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-05-24 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier, ETT
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2170-5-24**] 08:02 AM
   Vancomycin - [**2170-5-24**] 08:02 AM
   Doxycycline - [**2170-5-24**] 08:25 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-23**] 04:07 PM
   Famotidine (Pepcid) - [**2170-5-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2170-5-24**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-24**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.9
C (98.5
   HR: 67 (67 - 95) bpm
   BP: 103/65(82) {98/47(64) - 156/139(146)} mmHg
   RR: 28 (26 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 7 (5 - 8)mmHg
   Total In:
                                                                  3,813 mL
                                                                  1,740 mL
   PO:
   TF:
                                                                    904 mL
                                                                    478 mL
   IVF:
                                                                  1,589 mL
                                                                    841 mL
   Blood products:
   Total out:
                                                                  4,320 mL
                                                                  1,780 mL
   Urine:
                                                                  4,320 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -507 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/45/81.[**Numeric Identifier **]/31/8
   Ve: 9.5 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   583 K/uL
   117 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.7 mEq/L
   40 mg/dL
   106 mEq/L
   148 mEq/L
   23.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-5-22**]  01:49 PM
                             [**2170-5-22**]  05:23 PM
                             [**2170-5-22**]  09:36 PM
                             [**2170-5-23**]  03:37 AM
                             [**2170-5-23**]  03:59 AM
                             [**2170-5-23**]  04:33 AM
                             [**2170-5-23**]  09:22 PM
                             [**2170-5-24**]  03:48 AM
                             [**2170-5-24**]  04:09 AM
                             [**2170-5-24**]  11:14 AM
   WBC
   11.1
   8.1
   Hct
   24.7
   26.9
   23.7
   Plt
   694
   583
   Cr
   0.8
   0.7
   TCO2
   32
   33
   39
   36
   38
   37
   34
   Glucose
   216
   117
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:59/92, Alk Phos / T Bili:394/0.4,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, LDH:407
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Microbiology: Blood Culture ([**2170-5-21**]) GPC anaerobic bottle
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology, ARDS.
   RESPIRATORY FAILURE -- persistent.  Attributed to LLL pneumonia,
   possible ARDS.  Now possible VAP.  Continue mechanical ventilation.
   Aim for pH= 7.35-7.40, SaO2 >90%.  Treat oral swelling.  Begin tapering
   sedation as tolerated.  Weaning PEEP.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.  Now
   with concern for VAP(green purulent sputum by BAL) --> plan targetd
   antimicorbials.  Continue Vanco, Meropenim, Doxicycline.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Improving.  Continue
   steroids.
   PNEUMONIA / ARDS / respiratory failure
 micro remain unrevealing,
   continue current abx regimen, wean vent as tolerated
 decrease RR and
   FiO2 today.  Meropenim, Vanco, Doxicycline per ID service.
   HYPOTENSION -- follow BP, diurese as tolerated.
   BACTEREMIA -- GPC.  Suspect line-related.  Continue Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   ANEMIA -- repeat, transfuse as needed.  Now vaginal bleeding (minimal).
   VAGINAL BLEEDING
 resolved.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   HYPERNATREMIA
 monitor.  [**Month (only) 11**] need free water replacement.
   NUTRITIONAL SUPPORT
 TF at goal.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-24**] 04:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Arterial Line - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-25 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2170-5-24**] 12:00 PM
 FEVER - 102.1
F - [**2170-5-24**] 08:00 AM
   -d/c arterial line and sent tip for cx
   -PEEP decreased to 12, tolerating with PaO2 of 60
   -sedation weaned
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Doxycycline - [**2170-5-24**] 07:51 PM
   Vancomycin - [**2170-5-24**] 08:20 PM
   Meropenem - [**2170-5-24**] 11:54 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-24**] 07:52 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-25**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-25**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.1
C (98.7
   HR: 57 (57 - 83) bpm
   BP: 104/50(63) {87/35(47) - 112/53(67)} mmHg
   RR: 28 (27 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 9 (6 - 17)mmHg
   Total In:
                                                                  3,676 mL
                                                                    642 mL
   PO:
   TF:
                                                                  1,003 mL
                                                                    180 mL
   IVF:
                                                                  1,632 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    450 mL
   Urine:
                                                                  2,650 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,026 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/49/77/33/8
   Ve: 9.9 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   593 K/uL
   8.3 g/dL
   190 mg/dL
   0.6 mg/dL
   33 mEq/L
   5.1 mEq/L
   41 mg/dL
   104 mEq/L
   145 mEq/L
   26.4 %
   9.4 K/uL
                             [**2170-5-23**]  03:37 AM
                             [**2170-5-23**]  03:59 AM
                             [**2170-5-23**]  04:33 AM
                             [**2170-5-23**]  09:22 PM
                             [**2170-5-24**]  03:48 AM
                             [**2170-5-24**]  04:09 AM
                             [**2170-5-24**]  11:14 AM
                             [**2170-5-24**]  01:00 PM
                             [**2170-5-25**]  03:12 AM
                             [**2170-5-25**]  03:58 AM
   WBC
   11.1
   8.1
   9.4
   Hct
   26.9
   23.7
   26.4
   Plt
   694
   583
   593
   Cr
   0.8
   0.7
   0.6
   TCO2
   39
   36
   38
   37
   34
   37
   35
   Glucose
   [**Telephone/Fax (3) 6925**]
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:59/92, Alk Phos / T Bili:394/0.4,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, LDH:407
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:.  Respiratory distress/fevers likely [**1-1**]
   multi-focal pneumonia and pulmonary edema, of unknown cause. Also on
   differential less common etiologies such as Histoplasma, Ehrlichia,
   Coxiella. Babesia. Continues to have fevers. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement). HIV negative. S/p ceftriaxone, cefepime,
   vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**]) Off steroids. Off
   paralytics. Abx had been changed on [**5-18**] due to concern about drug
   reaction. Mycoplasma and chlamydia negative. PCP [**Name Initial (PRE) 5324**]. BAL with
   polys but no organism, 1% eosinophils.  Flu/viral negative. Legionella
   negative. Sputum with only yeast. Ehrlichia and Babesia negative.
   B-glucan and aspergillous negative. Urine Histo Ag negative.  Pt
   appears to be doing well with vent weaning.
   - cont meropenem ([**5-18**] - ) (8 day course); cont vanco ([**5-21**]- ) for 8
   day course (vanc trough 18.4; [**5-21**]); cont doxycycline: apprecciate ID
   recs
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture if  fever
   continues and clinically declines
   - continue mechanical ventilation, will lower PEEP to 10 today
   - decrease sedation 20% per day if possible without causing ventilator
   dysynchrony
   - diurese (goal -1 L): 40mg lasix IV
   - consider trach placement, as pt is on day 10 or intubation
   #Persistent Fever of Unknown Origin: Fever curve improved, patient no
   longer requiring cooling blanket.  Infectious vs. autoimmune vs.
   malignancy.  Multifocal PNA of unknown etiology being treated with abx
   as above.  Possibility that drug side effect given the amount of abx pt
   is on.  Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No
   evidence of deep space infection by CT sinus or CT abd/pelvis.
   - continue cooling blanket and tylenol as need
   - coagulase negative staph from blood cx. [**5-21**]: likely contaminant but
   awaiting results of new blood cxs
   - CT sinus and CT abdomen/pelvis show no obvious deep space infections
   # Face swelling: Improving after cessastion of Linezolid.  unclear
   etiology
 [**Name (NI) 6855**] likely angioedema [**1-1**] drug reaction u/s of upper ext
   without clot, but cannot rule out SVC without CT scan.  At this point
   will stop treating for drug reaction as she appears improved
   - Continue with Vanco, Meropenem and Doxycycline
   - Reduce methylprednisilone to 15mg IV q24 hr, monitor.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S
   # ARF: Resolving, stable crit at 0.6
   - monitor creatinine (stabilized) and UOP
   - monitor sodium
   - renally dose meds
   - avoid nephrotoxins
   # Tranaminitis: elevated ALP, AST and ALT, improved, now elevated
   again.  CT abdomen show mildly dilated CBD s/p cholecystectomy, fatty
   infiltrate of liver
   -continue to monitor LFTs
   # HTN
stable, holding home metoprolol
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   # DM: HISS, increased due to elevated am glucose
   - Continue 12 units qhs
   ICU Care
   Nutrition: [**2170-5-24**] 04:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT: heparin proph
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:
   ------ Protected Section ------
   Physical inadvertently excluded from progress note.  See below:
   PHYSICAL EXAM
   GENERAL: Sedated, on vent, non-responsive
   HEENT: Normocephalic, atraumatic.  Eyes closed, facial edema improved.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP unable to be assessed
   LUNGS: Rhonchorous bilaterally
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: mildly edematous, generally appears less anasarcic
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 3099**], MD
   on:[**2170-5-26**] 11:11 ------

2170-05-25 17:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tmax lower, now off cooling blanket this morning.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2170-5-25**] 07:54 AM
   Vancomycin - [**2170-5-25**] 07:54 AM
   Doxycycline - [**2170-5-25**] 07:55 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-5-24**] 07:52 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-25**] 12:05 AM
   Furosemide (Lasix) - [**2170-5-25**] 11:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-25**] 05:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 70 (57 - 74) bpm
   BP: 102/46(59) {87/35(47) - 112/54(67)} mmHg
   RR: 28 (27 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 19 (7 - 19)mmHg
   Total In:
                                                                  3,604 mL
                                                                  1,922 mL
   PO:
   TF:
                                                                    932 mL
                                                                    621 mL
   IVF:
                                                                  1,632 mL
                                                                    710 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,770 mL
   Urine:
                                                                  2,650 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    954 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/49/77/33/8
   Ve: 10.3 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   593 K/uL
   190 mg/dL
   0.6 mg/dL
   33 mEq/L
   5.1 mEq/L
   41 mg/dL
   104 mEq/L
   145 mEq/L
   26.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2170-5-23**]  03:37 AM
                             [**2170-5-23**]  03:59 AM
                             [**2170-5-23**]  04:33 AM
                             [**2170-5-23**]  09:22 PM
                             [**2170-5-24**]  03:48 AM
                             [**2170-5-24**]  04:09 AM
                             [**2170-5-24**]  11:14 AM
                             [**2170-5-24**]  01:00 PM
                             [**2170-5-25**]  03:12 AM
                             [**2170-5-25**]  03:58 AM
   WBC
   11.1
   8.1
   9.4
   Hct
   26.9
   23.7
   26.4
   Plt
   694
   583
   593
   Cr
   0.8
   0.7
   0.6
   TCO2
   39
   36
   38
   37
   34
   37
   35
   Glucose
   [**Telephone/Fax (3) 6925**]
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:59/92, Alk Phos / T Bili:394/0.4,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, LDH:407
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology, ARDS.
   RESPIRATORY FAILURE -- persistent.  Attributed to LLL pneumonia,
   possible ARDS.  Now possible VAP.  Continue mechanical ventilation.
   Aim for pH= 7.35-7.40, SaO2 >90%.  Treat oral swelling. Taper sedation
   as tolerated.  Continue weaning PEEP towards 5 cmH2O.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.
   VAP(green purulent sputum by BAL) --> plan targetd antimicorbials.
   Continue Vanco, Meropenim, Doxicycline.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Improving.  Continue
   steroids.
   HYPOTENSION -- Resolved.  Monitor, diurese as tolerated.
   BACTEREMIA -- GPC.  Suspect line-related.  Continue Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-25**] 08:03 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-26 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -weaned steroids
   -PEEP weaned from 12-->8, PO2 stable
   -sedation weaned
   -ID recs to continue vanco/[**Last Name (un) **]/doxy
   -lantus increased to 16 units
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Doxycycline - [**2170-5-25**] 07:21 PM
   Vancomycin - [**2170-5-25**] 07:21 PM
   Meropenem - [**2170-5-25**] 11:07 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-25**] 11:07 PM
   Furosemide (Lasix) - [**2170-5-26**] 01:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 67 (60 - 97) bpm
   BP: 137/65(83) {94/42(55) - 166/72(94)} mmHg
   RR: 28 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 7 (7 - 21)mmHg
   Total In:
                                                                  3,853 mL
                                                                    634 mL
   PO:
   TF:
                                                                    889 mL
                                                                    284 mL
   IVF:
                                                                  1,304 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,480 mL
                                                                  2,550 mL
   Urine:
                                                                  3,480 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                 -1,916 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.48/47/61/32/9
   Ve: 9.6 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General: intubated, patient alert this morning, arms restrained,
   spontaneously moving all limbs
   HEENT: PERRL, endotracheal tube in place, some facial edema, lip
   swelling resolved
   CV: RRR S1S2, no appreciable murmurs
   Resp: coarse repiratory sounds b/l, decreased at bases
   Abd: soft, nondistended, +BS
   Ext: +2DP pulses b/l, no edema in lower extremities, all extremities
   warm to touch
   Neuro: Patient alert, not following simple commands, however may be due
   to language barrier.
   Labs / Radiology
   743 K/uL
   9.3 g/dL
   145 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   40 mg/dL
   93 mEq/L
   138 mEq/L
   28.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2170-5-23**]  04:33 AM
                             [**2170-5-23**]  09:22 PM
                             [**2170-5-24**]  03:48 AM
                             [**2170-5-24**]  04:09 AM
                             [**2170-5-24**]  11:14 AM
                             [**2170-5-24**]  01:00 PM
                             [**2170-5-25**]  03:12 AM
                             [**2170-5-25**]  03:58 AM
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
   WBC
   8.1
   9.4
   14.0
   Hct
   23.7
   26.4
   28.9
   Plt
   583
   593
   743
   Cr
   0.7
   0.6
   0.6
   TCO2
   36
   38
   37
   34
   37
   35
   36
   Glucose
   117
   190
   145
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:95/88, Alk Phos / T Bili:278/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, LDH:407
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:.  Respiratory distress/fevers likely [**1-1**]
   multi-focal pneumonia and pulmonary edema, of unknown cause. Also on
   differential less common etiologies such as Histoplasma, Ehrlichia,
   Coxiella. Babesia. Continues to have fevers. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement). HIV negative. S/p ceftriaxone, cefepime,
   vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**]) Off steroids. Off
   paralytics. Abx had been changed on [**5-18**] due to concern about drug
   reaction. Mycoplasma and chlamydia negative. PCP [**Name Initial (PRE) 5324**]. BAL with
   polys but no organism, 1% eosinophils.  Flu/viral negative. Legionella
   negative. Sputum with only yeast. Ehrlichia and Babesia negative.
   B-glucan and aspergillous negative. Urine Histo Ag negative.  Pt
   appears to be doing well with vent weaning.
   - cont meropenem ([**5-18**] - ) (8 day course); cont vanco ([**5-21**]- ) for 8
   day course (vanc trough 18.4; [**5-21**]); cont doxycycline: ID recommends
   continuing current abx regimen
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture if  fever
   continues and clinically declines
   - continue mechanical ventilation, will lower PEEP to 10 today
   - decrease sedation 20% per day if possible without causing ventilator
   dysynchrony
   - diurese (goal -1 L): 40mg lasix IV
   - consider trach placement, as pt is on day 10 or intubation
   #Persistent Fever of Unknown Origin: Fever curve improved, patient no
   longer requiring cooling blanket.  Infectious vs. autoimmune vs.
   malignancy.  Multifocal PNA of unknown etiology being treated with abx
   as above.  Possibility that drug side effect given the amount of abx pt
   is on.  Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No
   evidence of deep space infection by CT sinus or CT abd/pelvis.
   - continue cooling blanket and tylenol as need
   - coagulase negative staph from blood cx. [**5-21**]: likely contaminant but
   awaiting results of new blood cxs
   - CT sinus and CT abdomen/pelvis show no obvious deep space infections
   # Face swelling: Improving after cessastion of Linezolid.  unclear
   etiology
 [**Name (NI) 6855**] likely angioedema [**1-1**] drug reaction u/s of upper ext
   without clot, but cannot rule out SVC without CT scan.  At this point
   will stop treating for drug reaction as she appears improved
   - Continue with Vanco, Meropenem and Doxycycline
   - Reduce methylprednisilone to 15mg IV q24 hr, monitor.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S
   # ARF: Resolving, stable crit at 0.6
   - monitor creatinine (stabilized) and UOP
   - monitor sodium
   - renally dose meds
   - avoid nephrotoxins
   # Tranaminitis: elevated ALP, AST and ALT, improved, now elevated
   again.  CT abdomen show mildly dilated CBD s/p cholecystectomy, fatty
   infiltrate of liver
   -continue to monitor LFTs
   # HTN
stable, holding home metoprolol
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   # DM: HISS, increased due to elevated am glucose
   - Continue 12 units qhs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-26**] 06:42 AM 40 mL/hour
   Glycemic Control:  insuling SS, glargine
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Remains intubated

2170-05-26 11:09:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating gradual reduction in PEEP.
   Tolerating gradual weaning of sedation, more responsive and awake.
   Fevers now low grade.
   Experienced emesis this AM.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2170-5-26**] 08:00 AM
   Doxycycline - [**2170-5-26**] 08:00 AM
   Vancomycin - [**2170-5-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-26**] 01:27 AM
   Heparin Sodium (Prophylaxis) - [**2170-5-26**] 08:00 AM
   Midazolam (Versed) - [**2170-5-26**] 10:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-26**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 79 (60 - 97) bpm
   BP: 145/74(105) {94/42(55) - 166/74(105)} mmHg
   RR: 21 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 5 (5 - 21)mmHg
   Total In:
                                                                  3,853 mL
                                                                  1,120 mL
   PO:
   TF:
                                                                    889 mL
                                                                    320 mL
   IVF:
                                                                  1,304 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  3,480 mL
                                                                  2,850 mL
   Urine:
                                                                  3,480 mL
                                                                  1,990 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                 -1,730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 522 (522 - 522) mL
   PS : 16 cmH2O
   RR (Set): 28
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/47/61/32/9
   Ve: 12.5 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   743 K/uL
   145 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   40 mg/dL
   93 mEq/L
   138 mEq/L
   28.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2170-5-23**]  04:33 AM
                             [**2170-5-23**]  09:22 PM
                             [**2170-5-24**]  03:48 AM
                             [**2170-5-24**]  04:09 AM
                             [**2170-5-24**]  11:14 AM
                             [**2170-5-24**]  01:00 PM
                             [**2170-5-25**]  03:12 AM
                             [**2170-5-25**]  03:58 AM
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
   WBC
   8.1
   9.4
   14.0
   Hct
   23.7
   26.4
   28.9
   Plt
   583
   593
   743
   Cr
   0.7
   0.6
   0.6
   TCO2
   36
   38
   37
   34
   37
   35
   36
   Glucose
   117
   190
   145
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:95/88, Alk Phos / T Bili:278/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, LDH:407
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology, ARDS.
   RESPIRATORY FAILURE -- Persistent, but now demonstrating improvement.
   Attributed to LLL pneumonia, possible ARDS.  Now possible VAP.
   Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%.
   Treat oral swelling. Taper sedation as tolerated.  Continue weaning
   PEEP towards 5 cmH2O.  Monitor VBG and SaO2.  Work towards SBT.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.
   VAP(green purulent sputum by BAL) --> plan targetd antimicorbials.
   Continue Vanco, Meropenim, Doxicycline.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Improved.  Continue
   steroids.
   HYPOTENSION -- Resolved.  Monitor, diurese as tolerated.
   BACTEREMIA -- GPC.  Suspect line-related.  Continue Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- continue weaning.  Will substitute with Propofol to allow
   daily wake-ups (d/c versed)
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   Overall Tmax on decline.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-27 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tolerating wean off sedation: midazolam d/ced, fentanyl and propofol
   slowly decreasing
   -on PS: failed weaning trail when family in room becoming tachypnic and
   diaphoretic
   - patient admits to feeling anxious-on anxiolytic as outpatient
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Doxycycline - [**2170-5-26**] 07:58 PM
   Vancomycin - [**2170-5-26**] 08:10 PM
   Meropenem - [**2170-5-26**] 11:22 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2170-5-26**] 10:03 AM
   Heparin Sodium (Prophylaxis) - [**2170-5-26**] 11:22 PM
   Furosemide (Lasix) - [**2170-5-27**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-27**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 66 (66 - 84) bpm
   BP: 102/50(62) {102/50(62) - 151/78(105)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 11 (5 - 11)mmHg
   Total In:
                                                                  2,664 mL
                                                                    195 mL
   PO:
   TF:
                                                                    795 mL
   IVF:
                                                                  1,369 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,540 mL
   Urine:
                                                                  2,740 mL
                                                                  1,540 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -936 mL
                                                                 -1,345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (380 - 522) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 90
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.46/47/57/29/8
   Ve: 12.1 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General: partially sedated, responds to voice, follows commands
   HEENT: PERRL, endotracheal tube in place
   CV: RRR S1 S2, no appreciable JVP
   Resp: tachypnea, equal breath sounds b/l
   Abd: mild distension, soft, NT, +BS
   Ext: +2 pulses b/L
   Labs / Radiology
   594 K/uL
   9.6 g/dL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.4 mEq/L
   32 mg/dL
   97 mEq/L
   137 mEq/L
   29.9 %
   13.2 K/uL
        [image002.jpg]
                             [**2170-5-24**]  01:00 PM
                             [**2170-5-25**]  03:12 AM
                             [**2170-5-25**]  03:58 AM
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
   WBC
   9.4
   14.0
   13.2
   Hct
   26.4
   28.9
   29.9
   Plt
   593
   743
   594
   Cr
   0.6
   0.6
   0.5
   TCO2
   37
   35
   36
   35
   34
   34
   Glucose
   190
   145
   107
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:95/78, Alk Phos / T Bili:283/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:407
   IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:.  Day 11 intubation.  Respiratory
   distress/fevers likely [**1-1**] multi-focal pneumonia and pulmonary edema,
   of unknown cause. Also on differential less common etiologies such as
   Histoplasma, Ehrlichia, Coxiella. Babesia. Continues to have fevers.
   Autoimmune workup negative ([**Doctor First Name **]/ANCA/RF/complement). HIV negative. S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   Off steroids. Off paralytics. Abx had been changed on [**5-18**] due to
   concern about drug reaction. Mycoplasma and chlamydia negative. PCP
   [**Name Initial (PRE) 5324**]. BAL with polys but no organism, 1% eosinophils.  Flu/viral
   negative. Legionella negative. Sputum with only yeast. Ehrlichia and
   Babesia negative. B-glucan and aspergillous negative. Urine Histo Ag
   negative.  Pt appears to be doing well with vent weaning.
   - cont meropenem ([**5-18**] - ) (8 day course - ); cont vanco ([**5-21**]- ) for 8
   day course (vanc trough 18.4; [**5-21**]); cont doxycycline: ID recommends
   continuing current abx regimen with discontinuation of Doxycycline
   tomorrow, [**5-27**]
   - continue mechanical ventilation, attempt to decrease PEEP to 8 as pt
   now less sedated and want most comfortable vent setting while
   adequately ventilating/oxygenating
   - discontinue medazolam
   - start propofol, maintain fentanyl
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture
   - diurese (goal -2-3 L for last 24 hours): lasix prn
   #Persistent Fever of Unknown Origin: Fever curve improved, patient no
   longer requiring cooling blanket.  Infectious vs. autoimmune vs.
   malignancy.  Multifocal PNA of unknown etiology being treated with abx
   as above.  Possibility that drug side effect given the amount of abx pt
   is on.  Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No
   evidence of deep space infection by CT sinus or CT abd/pelvis.
   - f/u Bcx after CONS on [**5-21**]
   - continue cooling blanket and tylenol as need
   -CIS
   # Face swelling: Resolved after cessastion of Linezolid.  unclear
   etiology
 [**Name (NI) 6855**] likely angioedema [**1-1**] drug reaction u/s of upper ext
   without clot, but cannot rule out SVC without CT scan.
   - Continue with Vanco, Meropenem and Doxycycline
   - Reduce methylprednisilone to 15 mg IV q24 hr, monitor.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S
   # Tranaminitis: elevated ALP, AST and ALT, however improved.  CT
   abdomen show mildly dilated CBD s/p cholecystectomy, fatty infiltrate
   of liver
   -monitor LFT
s every 3-4 days
   # HTN
stable, holding home metoprolol
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   # DM: HISS, increased due to elevated am glucose
   - Continue 16 units qhs
   ICU Care
   Nutrition:
   Nutren pulm Full 40 mL/hr
   Glycemic Control:  insulin SSI, glargine
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-23**] 12:16 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:

2170-05-27 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating weaning of sedatives, now on Fentanyl and Propofol (off
   Versed).
   SBT trial this AM resulted in tachypnea and diaphoresis (especially
   when family entered room) --> resolved when IPS increased.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, ETT
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-27**] 08:00 AM
   Meropenem - [**2170-5-27**] 08:00 AM
   Doxycycline - [**2170-5-27**] 08:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-26**] 11:22 PM
   Furosemide (Lasix) - [**2170-5-27**] 03:49 AM
   Fentanyl - [**2170-5-27**] 09:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-27**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 77 (66 - 84) bpm
   BP: 104/54(66) {102/48(61) - 136/78(92)} mmHg
   RR: 25 (18 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,664 mL
                                                                    746 mL
   PO:
   TF:
                                                                    795 mL
   IVF:
                                                                  1,369 mL
                                                                    746 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,750 mL
   Urine:
                                                                  2,740 mL
                                                                  1,750 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -936 mL
                                                                 -1,004 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 357 (357 - 486) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 28
   PEEP: 6 cmH2O
   FiO2: 60%
   RSBI: 90
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.44/50/44/29/7
   Ve: 12 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   594 K/uL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.4 mEq/L
   32 mg/dL
   97 mEq/L
   137 mEq/L
   29.9 %
   13.2 K/uL
        [image002.jpg]
                             [**2170-5-25**]  03:12 AM
                             [**2170-5-25**]  03:58 AM
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
   WBC
   9.4
   14.0
   13.2
   Hct
   26.4
   28.9
   29.9
   Plt
   593
   743
   594
   Cr
   0.6
   0.6
   0.5
   TCO2
   35
   36
   35
   34
   34
   35
   Glucose
   190
   145
   107
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:95/78, Alk Phos / T Bili:283/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:407
   IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory failure, CAP of unclear etiology, ARDS.
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to LLL pneumonia, possible ARDS.  Now possible
   VAP.  Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2
   >90%. Oral swelling Taper sedation as tolerated.  Continue weaning PEEP
   towards 5 cmH2O.  Monitor VBG and SaO2.  Work towards SBT.
   PNEUMONIA -- unclear etiology of initial presentation of CAP -->
   reasonable to continue complete course for atypical organisms.
   VAP(green purulent sputum by BAL) --> plan targetd antimicorbials.
   Continue Vanco, Meropenim, Doxicycline.
   ORAL MUCOSAL SWELLING -- concern for angioedema, possibly related to
   underlying process or related to medications.  Improved.  Steroids -->
   d/c.
   BACTEREMIA -- GPC.  Suspect line-related.  Continue Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- continue weaning.  Will substitute with Propofol to allow
   daily wake-ups (d/c versed).  Change Fentanyl infusion to iv bolus.
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   Overall Tmax on decline.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.
   GENERALIZED WEAKNESS -- critical care mypathy.  PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-28 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA, respiratory distress
   24 Hour Events:
   - doing well on PS 5/5
   - started lorazepam 1mg q 4hrs PRN for anxiety
   - failed AM SBT
   - vanco dose held in evening for high trough
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-27**] 08:00 AM
   Doxycycline - [**2170-5-27**] 07:43 PM
   Meropenem - [**2170-5-27**] 11:01 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2170-5-27**] 02:05 PM
   Midazolam (Versed) - [**2170-5-27**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-27**] 11:01 PM
   Lorazepam (Ativan) - [**2170-5-28**] 03:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-28**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 69 (66 - 83) bpm
   BP: 115/71(82) {90/45(55) - 116/71(82)} mmHg
   RR: 25 (17 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 98 kg
   Height: 59 Inch
    CVP: 6 (2 - 6)mmHg
   Total In:
                                                                  2,087 mL
                                                                    261 mL
   PO:
   TF:
                                                                    480 mL
                                                                      4 mL
   IVF:
                                                                  1,547 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    740 mL
   Urine:
                                                                  2,650 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -563 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 315 (315 - 450) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.44/50/44/28/7
   Ve: 12.3 L/min
   PaO2 / FiO2: 110
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Sedated, intubated, moves lids to voice, not following
   commands
   HEENT: Normocephalic, atraumatic.  MMM, facial edema improved.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP not assessed
   LUNGS: CTAB, wheezes bilaterally
   ABDOMEN: +BS. Soft, NT, ND.  No HSM
   EXTREMITIES: No LE Edema, WWP, anasarca improved
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated
   Labs / Radiology
   657 K/uL
   9.0 g/dL
   94 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   27 mg/dL
   99 mEq/L
   138 mEq/L
   27.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2170-5-25**]  03:58 AM
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
   WBC
   14.0
   13.2
   11.2
   Hct
   28.9
   29.9
   27.5
   Plt
   743
   594
   657
   Cr
   0.6
   0.5
   0.5
   TCO2
   35
   36
   35
   34
   34
   35
   Glucose
   145
   107
   94
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:71/41, Alk Phos / T Bili:229/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  Day 13 intubation.  Respiratory
   distress/fevers likely [**1-1**] multi-focal pneumonia and pulmonary edema,
   of unknown cause.  Fevers improved. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement), extensive infectious w/u negative.  S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
   [**5-19**]).  Abx had been changed on [**5-18**] due to concern about drug
   reaction.  CXR shows little interval change, persistence of b/l
   pulmonary infiltrates.  Clinical status has improved significantly and
   patient is being weaned off vent.  SBT failed [**1-1**] diaphoresis and
   tachypnea- likely multifactorial due to increased work of breathing
   after prolonged intubation, anxiety, some mild drug withdrawal.
   - dc vanco, doxy and meropenem today, course completed
   - continue to wean vent
   - attempt SBT again this evening if pt has additional RSBI<105
   - taper fentanyl and propofol as tolerated, ativan for anxiety
   - f/u bl cxs, urine cx, sputum and BAL studies and reculture if spikes
   - PT consult when patient becomes more responsive
   - will discuss trach with family, however hopeful that patient will be
   able to be extubated shortly.
   #Persistent Fever of Unknown Origin: Pt was not febrile over the last
   24 hrs.  No evidence for autoimmune disease or malignancy at this
   point.  Multifocal PNA of unknown etiology treated with broad coverage
   abx, course completed.  Possibility that drug side effect given the
   amount of abx pt is on.  Rheumatic work up to date is negative
   (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence of deep space infection by CT sinus
   or CT abd/pelvis.
   - pt had one positive coagulase negative staph blood cx.: no repeat
   positive results
   -tyelenol q. 4 hrs PRN fever
   -CIS
   # Face swelling: Resolved after cessastion of Linezolid.  Unclear
   etiology
 most likely angioedema [**1-1**] drug reaction.  U/s of upper ext
   without clot, but cannot rule out SVC without CT scan.  Completed
   steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S
   # Tranaminitis: elevated ALP, AST and ALT, however improved.  CT
   abdomen show mildly dilated CBD s/p cholecystectomy, fatty infiltrate
   of liver.
   -monitor LFT
s every 3-4 days
   # HTN
stable, holding home metoprolol
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - ativan PRN
   # DM: HISS, increased due to elevated am glucose
   - Continue 16 units qhs
   ICU Care
   Nutrition: hold tube feeds for now in anticipation of SBT tomorrow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  with patient and daughter [**Name (NI) 6664**] [**Name (NI) 6665**] [**Telephone/Fax (1) 6666**]
   Code status: Full
   Disposition: pending improvement of respiratory status

2170-05-28 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating IPS SBT this AM > 60 minutes.  Component of anxiety
   exhibited.
   Remains with marked generalized weakness.
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-27**] 08:00 AM
   Doxycycline - [**2170-5-27**] 07:43 PM
   Meropenem - [**2170-5-28**] 07:47 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2170-5-27**] 02:05 PM
   Midazolam (Versed) - [**2170-5-27**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-27**] 11:01 PM
   Lorazepam (Ativan) - [**2170-5-28**] 03:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-28**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 72 (66 - 83) bpm
   BP: 105/56(67) {90/45(55) - 115/71(82)} mmHg
   RR: 29 (17 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 98 kg
   Height: 59 Inch
   CVP: 6 (2 - 6)mmHg
   Total In:
                                                                  2,087 mL
                                                                    416 mL
   PO:
   TF:
                                                                    480 mL
                                                                      4 mL
   IVF:
                                                                  1,547 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    820 mL
   Urine:
                                                                  2,650 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -563 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (315 - 450) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   RSBI Deferred: Agitated
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, No(t) Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   657 K/uL
   94 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   27 mg/dL
   99 mEq/L
   138 mEq/L
   27.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2170-5-25**]  03:58 AM
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
   WBC
   14.0
   13.2
   11.2
   Hct
   28.9
   29.9
   27.5
   Plt
   743
   594
   657
   Cr
   0.6
   0.5
   0.5
   TCO2
   35
   36
   35
   34
   34
   35
   Glucose
   145
   107
   94
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:71/41, Alk Phos / T Bili:229/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to LLL pneumonia, possible ARDS.  Also VAP.
   Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%.
   Oral swelling resolved.  Sedation tapered.  Continue weaning PEEP
   towards 5 cmH2O.  Monitor VBG and SaO2.  Tolerating SBT, but component
   of anxiety and profound motor weakness limiting progress.  Will
   initiate evaluation for tracheotomy tube placement.
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials today. (Vanco,
   Meropenim, Doxicycline).
   ORAL MUCOSAL SWELLING -- concern for angioedema.  Resolved.  Steroids
   --> d/c.
   BACTEREMIA -- GPC.  Suspect line-related --> completed Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- Now on standing ativan doses and Propofol infusion.
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 unclear [**Name2 (NI) **], but may be component of drug-related fever.
   Overall Tmax on decline.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.
   GENERALIZED WEAKNESS -- critical care mypathy.  PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU Attending Addendum:
   Code Status:  Full Code
   Disposition:  ICU
   Total time spent:  35 minutes
   Patient is crically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2170-5-28**] 18:03 ------

2170-05-29 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - propofol dc'd, pt started scheduled ativan for anxiety.  Patient was
   becoming increasingly asynchronous with vent, propofol restarted.
   - unable to wean vent, pt swiched to CMV/ASSIST early AM with some
   improvement in respiratory rate
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-27**] 08:00 AM
   Doxycycline - [**2170-5-27**] 07:43 PM
   Meropenem - [**2170-5-28**] 07:47 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-28**] 11:39 PM
   Lorazepam (Ativan) - [**2170-5-29**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 79 (69 - 99) bpm
   BP: 108/48(61) {92/44(55) - 140/74(89)} mmHg
   RR: 20 (20 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  1,076 mL
                                                                    575 mL
   PO:
             TF:
                                                                    104 mL
                                                                    239 mL
   IVF:
                                                                    712 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    555 mL
   Urine:
                                                                  1,570 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -494 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 315 (315 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 9.3 L/min
   Physical Examination
   General: Pt in bed, sedated, spontaneously yawned during exam,
   intubated
   HEENT: MMM, ETT secured in place, face mildly edematous, lips and
   tongue no longer swollen
   Lungs: Clear to auscultation bilaterally, no wheezes noted on exam
   CV: RRR, no murumurs gallops or rubs, S1 and S2 normal, no S3 or S4
   Abd: soft, NT/ND, Active bowel sounds
   Ext: no edema, radial and DP pulses palpable and equal bilaterally.
   Neuro: pt sedated, but open eyes slightly to verbal commands.
   Labs / Radiology
   717 K/uL
   9.4 g/dL
   89 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.4 mEq/L
   20 mg/dL
   103 mEq/L
   140 mEq/L
   29.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
   WBC
   14.0
   13.2
   11.2
   12.6
   Hct
   28.9
   29.9
   27.5
   29.9
   Plt
   743
   594
   657
   717
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   36
   35
   34
   34
   35
   Glucose
   145
   107
   94
   89
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:50/31, Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  Day 14 intubation.  Respiratory
   distress/fevers likely [**1-1**] multi-focal pneumonia and pulmonary edema,
   of unknown cause.  Fevers resolveded. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement), extensive infectious w/u negative.  S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   and doxycycline.  Abx had been changed on [**5-18**] due to concern about
   drug reaction.  CXR shows little interval change, persistence of b/l
   pulmonary infiltrates.  Clinical status has improved significantly and
   patient is being weaned off vent.  SBT failed on [**5-29**] [**1-1**] tachypnea-
   likely multifactorial due to increased work of breathing after
   prolonged intubation, anxiety, some mild drug withdrawal.
   - continue to wean vent
   - attempt SBT again in evening or on morning of [**5-30**]
   - continue to taper fentanyl and propofol as tolerated, ativan for
   anxiety without creating vent dysynchrony
   - f/u studies, reculture if spikes
   - PT consult when patient becomes more responsive
   - intubated for 2 weeks, possibilty of trach discussed with family if
   unable to extubate pt shortly
   #Persistent Fever of Unknown Origin: Pt was not febrile over the last
   48 hrs.  No evidence for autoimmune disease or malignancy at this
   point.  Multifocal PNA of unknown etiology treated with broad coverage
   abx, course completed.  Possibility that drug side effect given the
   amount of abx pt is on.  Rheumatic work up to date is negative
   (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence of deep space infection by CT sinus
   or CT abd/pelvis.
   - pt had one positive coagulase negative staph blood cx.: no repeat
   positive results
   -tyelenol q. 4 hrs PRN fever
   -CIS
   # Face swelling: Resolved after cessastion of Linezolid.  Unclear
   etiology
 most likely angioedema [**1-1**] drug reaction.  U/s of upper ext
   without clot, but cannot rule out SVC without CT scan.  Completed
   steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S in am due to possibility of trach
   # Tranaminitis: continues to improve.  Alk Phos and ALT still slightly
   elevated.  CT abdomen show mildly dilated CBD s/p cholecystectomy,
   fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, holding home metoprolol
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - ativan PRN
   # DM: HISS, increased due to elevated am glucose
   - Continue 16 units qhs
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2170-5-28**] 07:00 PM 40 mL/hour
   Glycemic Control:  SSI + glargine
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: Wean off vent

2170-05-29 11:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Limited tolerance for SBT yesterday --> limited by tachypnea, RR > 35.
   Stable overnight on AC mode, requiring Propofol for sleep.
   More awake this AM.
   Improved motor strength today, able to squeeze with hands, able to move
   feet and legs.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-27**] 08:00 AM
   Doxycycline - [**2170-5-27**] 07:43 PM
   Meropenem - [**2170-5-28**] 07:47 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-5-28**] 11:39 PM
   Lorazepam (Ativan) - [**2170-5-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-29**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 91 (71 - 99) bpm
   BP: 122/52(68) {92/44(55) - 140/74(89)} mmHg
   RR: 24 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  1,076 mL
                                                                    871 mL
   PO:
             TF:
                                                                    104 mL
                                                                    239 mL
   IVF:
                                                                    712 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    745 mL
   Urine:
                                                                  1,570 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -494 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 315 (315 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal, Able to squeeze with hands (minimal) and
   able to move feet and lift legs)
   Labs / Radiology
   9.4 g/dL
   717 K/uL
   89 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.4 mEq/L
   20 mg/dL
   103 mEq/L
   140 mEq/L
   29.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2170-5-26**]  01:42 AM
                             [**2170-5-26**]  04:15 AM
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
   WBC
   14.0
   13.2
   11.2
   12.6
   Hct
   28.9
   29.9
   27.5
   29.9
   Plt
   743
   594
   657
   717
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   36
   35
   34
   34
   35
   Glucose
   145
   107
   94
   89
   Other labs: PT / PTT / INR:14.3/28.5/1.2, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:50/31, Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to LLL pneumonia, possible ARDS.  Also VAP.
   Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%.
   Oral swelling resolved.  Sedation tapered.  Continue weaning PEEP
   towards 5 cmH2O.  Monitor VBG and SaO2.  Tolerating SBT, but component
   of anxiety, abnormal lung parencyhyma and profound motor weakness
   limiting progress.  Will initiate evaluation for tracheotomy tube
   placement, but will continue to work towards extubation trial if
   possible.
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials today. (Vanco,
   Meropenim, Doxicycline).
   ORAL MUCOSAL SWELLING -- angioedema.  Resolved.  Steroids --> d/c.
   BACTEREMIA -- GPC.  Suspect line-related --> completed Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- Now on standing ativan doses and Propofol infusion.
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 resolved.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.
   GENERALIZED WEAKNESS -- critical care mypathy.  PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-30 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient intermittently requiring AC ventilation due to tachypnea on
   PSV
   - increased secretions from ETT as per respiratory therapists, started
   on scopolamine patch
   -L IJ dressing peeling off with secretions.  nurse [**First Name (Titles) 7025**] [**Last Name (Titles) **]
   contaminated and should be re-sited to Right IJ.
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-27**] 08:00 AM
   Doxycycline - [**2170-5-27**] 07:43 PM
   Meropenem - [**2170-5-28**] 07:47 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-5-29**] 07:00 PM
   Lansoprazole (Prevacid) - [**2170-5-29**] 08:00 PM
   Furosemide (Lasix) - [**2170-5-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-30**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 87 (79 - 107) bpm
   BP: 134/75(90) {104/47(61) - 143/108(111)} mmHg
   RR: 20 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  1,580 mL
                                                                    102 mL
   PO:
             TF:
                                                                    701 mL
                                                                     37 mL
   IVF:
                                                                    649 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                  1,575 mL
   Urine:
                                                                  1,005 mL
                                                                  1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                 -1,473 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 366 (327 - 366) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 165
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.54/36/245/26/8
   Ve: 10.6 L/min
   PaO2 / FiO2: 613
   Physical Examination
   PHYSICAL EXAM
   GENERAL: sedated, intubated, responsive to light touch, not following
   commands
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOM, moderate amt .  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: decreased lung sounds at bases bilaterally
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   769 K/uL
   9.9 g/dL
   105 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   19 mg/dL
   102 mEq/L
   142 mEq/L
   29.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   Hct
   29.9
   27.5
   29.9
   29.9
   Plt
   594
   657
   717
   769
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   35
   34
   34
   35
   32
   Glucose
   107
   94
   89
   105
   Other labs: PT / PTT / INR:12.5/27.2/1.1, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:50/31, Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  Day 14 intubation.  Respiratory
   distress/fevers likely [**1-1**] multi-focal pneumonia and pulmonary edema,
   of unknown cause.  Fevers resolveded. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement), extensive infectious w/u negative.  S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   and doxycycline.  Abx had been changed on [**5-18**] due to concern about
   drug reaction.  CXR shows little interval change, persistence of b/l
   pulmonary infiltrates.  Clinical status has improved significantly and
   patient is being weaned off vent.  Repeatedly failed SBT [**1-1**] tachypnea-
   likely multifactorial due to increased work of breathing after
   prolonged intubation, anxiety, some mild drug withdrawal.
   - continue vent management.  Switch from CMV to PS
   - tracheostomy planned for tomorrow pending consent from family
   - continue to taper propofol as tolerated, ativan prn axiety
   - f/u studies, reculture if spikes
   - continue PT due to weakness 2/2 prolonged ICU stay
   #Persistent Fever of Unknown Origin: Afebrile over 72 hrs.  No evidence
   for autoimmune disease or malignancy at this point.  Multifocal PNA of
   unknown etiology treated with broad coverage abx, course completed.
   Possibility that drug side effect given the amount of abx pt is on.
   Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence
   of deep space infection by CT sinus or CT abd/pelvis.
   - pt had one positive coagulase negative staph blood cx.: no repeat
   positive results
   -tyelenol q. 4 hrs PRN fever
   -CIS
   #secretions: likely oropharyngeal but potential early indication of VAP
   especially given increase in WBC.  CXR shows little interval change,
   patient is not more dyspnic, remains afebrile- no indication for
   empiric antibiotics for now
   - check CBC with differential today
   - d/c scopolamine patch [**1-1**] mental status side effects
   - d/c left IJ after tracheostomy
   # Face swelling: Resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S in am due to possibility of trach
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, holding home metoprolol
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - ativan PRN
   # DM: stable, continue HISS and glargine 16 units qhs
   ICU Care
   Nutrition: continue tube feeds, NPO at midnight for tracheostomy
   Glycemic Control:   HISS, glargine
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-29**] 03:25 PM
   Prophylaxis:
   DVT: pneumobooots
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-05-30 12:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory faiilure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerated prolonged IPS yesterday.  Rested overnight on AC mode.
   Back on IPS mode this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Doxycycline - [**2170-5-27**] 07:43 PM
   Meropenem - [**2170-5-28**] 07:47 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-5-29**] 07:00 PM
   Lansoprazole (Prevacid) - [**2170-5-29**] 08:00 PM
   Furosemide (Lasix) - [**2170-5-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ett
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-30**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 96 (76 - 107) bpm
   BP: 107/56(67) {104/47(61) - 143/108(111)} mmHg
   RR: 38 (13 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  1,629 mL
                                                                  1,098 mL
   PO:
             TF:
                                                                    701 mL
                                                                    484 mL
   IVF:
                                                                    698 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                  1,675 mL
   Urine:
                                                                  1,005 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    374 mL
                                                                   -577 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 324 (324 - 366) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 165
   PIP: 18 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.54/36/245/26/8
   Ve: 12.5 L/min
   PaO2 / FiO2: 613
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   769 K/uL
   105 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   19 mg/dL
   102 mEq/L
   142 mEq/L
   29.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2170-5-26**]  04:11 PM
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   Hct
   29.9
   27.5
   29.9
   29.9
   Plt
   594
   657
   717
   769
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   35
   34
   34
   35
   32
   Glucose
   107
   94
   89
   105
   Other labs: PT / PTT / INR:12.5/27.2/1.1, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:50/31, Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:74.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to LLL pneumonia, possible ARDS.  Also VAP.
   Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%.
   Oral swelling resolved.  Sedation tapered.  Continue weaning PEEP
   towards 5 cmH2O.  Monitor VBG and SaO2.  Tolerating SBT, but component
   of anxiety, abnormal lung parencyhyma and profound motor weakness
   limiting progress.  Will initiate evaluation for tracheotomy tube
   placement, but will continue to work towards extubation trial if
   possible.  Anxiety and motor weakness remains major obstacles to
   adequate SBT.
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials today. (Vanco,
   Meropenim, Doxicycline).
   ORAL MUCOSAL SWELLING -- angioedema.  Resolved.  Steroids --> d/c.
   BACTEREMIA -- GPC.  Suspect line-related --> completed Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- Now on standing ativan doses and Propofol infusion.
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 resolved.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.
   GENERALIZED WEAKNESS -- critical care mypathy.  PT consult.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2170-5-30**] 12:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-29**] 03:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-05-31 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: multifocal PNA, intubated
   24 Hour Events:
   - new erythematous rash on neck and back
   - central line
   - tracheostomy and peg tube planned for tomorrow am
   - NPO after midnight, insulin dose cut in half
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2170-5-28**] 07:47 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2170-5-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-31**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2170-5-31**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 85 (71 - 101) bpm
   BP: 102/55(67) {87/49(60) - 151/123(129)} mmHg
   RR: 18 (13 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  2,158 mL
                                                                    225 mL
   PO:
             TF:
                                                                    960 mL
   IVF:
                                                                    948 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    415 mL
   Urine:
                                                                  2,330 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 317 (317 - 335) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   General: sedated, unresponsive
   HEENT: Sclera anicteric, MMM, copious secretions
   Neck: supple, JVP not elevated, no LAD
   Lungs: Course breath sounds bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or [**Last Name (un) **] .
   New errythematous macular rash extending from L neck to left back.
   Labs / Radiology
   628 K/uL
   9.6 g/dL
   104 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   141 mEq/L
   30.0 %
   11.3 K/uL
        [image002.jpg] [**5-30**] c diff negative, [**5-24**] blod cxs neg x2
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   Plt
   594
   657
   717
   769
   628
   Cr
   0.5
   0.5
   0.4
   0.5
   0.4
   TCO2
   34
   34
   35
   32
   Glucose
   107
   94
   89
   105
   104
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:50/31, Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 HEADACHE
 PNEUMONIA, OTHER
 NAUSEA / VOMITING
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  Day 15 intubation.  Respiratory
   distress/fevers likely [**1-1**] multi-focal pneumonia and pulmonary edema,
   of unknown cause.  Fevers resolved. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement), extensive infectious w/u negative.  S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   and doxycycline.  Abx had been changed on [**5-18**] due to concern about
   drug reaction.  CXR shows little interval change, persistence of b/l
   pulmonary infiltrates.  Clinical status has improved significantly and
   patient is going for trach/PEG as pt epeatedly failed SBT [**1-1**]
   tachypnea- likely multifactorial due to increased work of breathing
   after prolonged intubation, anxiety, some mild drug withdrawal.
   - continue vent management on volume assist until trach today
   - continue to taper propofol as tolerated, ativan prn axiety
   - f/u studies, reculture if spikes
   - continue PT due to weakness 2/2 prolonged ICU stay
   .
   # New rash: macular errythematous rash concerning for heat/moisture
   rash vs. drug reaction vs. fungal.  Distributions seems consistent with
   heat rash (esp in context of diaphoresis and uncontrolled secretions),
   however cannot r/u drug reaction given pts history of drug reaction and
   recent abx tx.  Appearance is less consistent with fungal infection.
   -derm consult today
   -miconazole PRN
   .
   #Persistent Fever of Unknown Origin: Currently afebrile.  No evidence
   for autoimmune disease or malignancy at this point.  Multifocal PNA of
   unknown etiology treated with broad coverage abx, course completed.
   Possibility that drug side effect given the amount of abx pt is on.
   Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence
   of deep space infection by CT sinus or CT abd/pelvis.
   - pt had one positive coagulase negative staph blood cx.: no repeat
   positive results
   - tyelenol q. 4 hrs PRN fever
   - CIS
   #Secretions: likely oropharyngeal but potential early indication of VAP
   especially given increase in WBC.  CXR shows little interval change,
   patient is not more dyspnic, remains afebrile- no indication for
   empiric antibiotics for now.
   - follow CBC
   # Facial edema: Edema resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S UTD
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, holding home metoprolol, restart on DC
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - ativan PRN
   # DM: stable, continue HISS and glargine 16 units qhs (half dose while
   NPO)
   ICU Care
   Nutrition: continue tube feeds, NPO at midnight for tracheostomy
   Glycemic Control:   HISS, glargine
   Lines:
   Multi Lumen - [**2170-5-15**] 08:00 PM
   20 Gauge - [**2170-5-29**] 03:25 PM
   Prophylaxis:
   DVT: pneumobooots
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: to rehab tomorrow if stable, pending placement

2170-05-31 11:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically venitilated.
   Generalized motor weakness remains without significant change.
   New rash (maculopapular) over left neck and upper back.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2170-5-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-5-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-5-31**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 92 (71 - 101) bpm
   BP: 111/59(71) {87/49(60) - 151/123(129)} mmHg
   RR: 17 (16 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  2,158 mL
                                                                    440 mL
   PO:
             TF:
                                                                    960 mL
   IVF:
                                                                    948 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    615 mL
   Urine:
                                                                  2,330 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 317 (317 - 335) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Maculopapular erythematous
   rash over left neck and upper back (bilateral)
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   628 K/uL
   104 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   141 mEq/L
   30.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2170-5-27**]  03:54 AM
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   Plt
   594
   657
   717
   769
   628
   Cr
   0.5
   0.5
   0.4
   0.5
   0.4
   TCO2
   34
   34
   35
   32
   Glucose
   107
   94
   89
   105
   104
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:50/31, Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to LLL pneumonia, possible ARDS.  Also VAP.
   Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%.
   Oral swelling resolved.  Sedation tapered.  Continue weaning PEEP
   towards 5 cmH2O.  Monitor VBG and SaO2.  Tolerating SBT, but component
   of anxiety, abnormal lung parencyhyma and profound motor weakness
   limiting progress.    Anxiety and motor weakness remains major
   obstacles to adequate SBT.  Plan for tracheotomy tube placement.
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials today. (Vanco,
   Meropenim, Doxicycline).
   RASH
 concern for drug rash (although asymmetric) or contact
   dermatitis.  Consider Dermatology evaluation.  Monitor.  Local care.
   BACTEREMIA -- GPC.  Suspect line-related --> completed Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- Now on standing ativan doses and Propofol infusion.
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 resolved.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.  On hold for trach.  Will
   need PEG (either percutaneous or surgical).
   GENERALIZED WEAKNESS -- critical care mypathy.  PT consult.
   DISPOSITION -- iniitate screening for rehabilitation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-06-01 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2170-5-31**] 11:56 AM
   At bedside
   - Patient remains very sedated, which is influencing her ability to
   tolerate PSV
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2170-5-31**] 12:26 PM
   Morphine Sulfate - [**2170-5-31**] 04:43 PM
   Lansoprazole (Prevacid) - [**2170-5-31**] 07:41 PM
   Heparin Sodium (Prophylaxis) - [**2170-6-1**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-1**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 84 (72 - 100) bpm
   BP: 125/74(82) {93/50(60) - 177/90(107)} mmHg
   RR: 17 (11 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  1,120 mL
                                                                    316 mL
   PO:
             TF:
                                                                    103 mL
                                                                    172 mL
   IVF:
                                                                    896 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    520 mL
   Urine:
                                                                  1,445 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 97%
   ABG: ///22/
   Ve: 7.6 L/min
   Physical Examination
   General: sedated, unresponsive
   HEENT: MMM, oropharynx clear, NG tube in place, PERRL
   Neck: supple, no LAD, no thyromegally, trach in place, no signs of
   infection or bleeding
   Lungs: Course breath sounds bilaterally, no wheezing
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing or cyanosis.  1+ edema
   in upper extremities.
   Skin:  Rash--errythematous and macular, no blisters or pustules, stable
   from yesterday.
   Labs / Radiology
   565 K/uL
   9.7 g/dL
   109 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   29.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   Plt
   594
   657
   717
   [**Telephone/Fax (3) 7083**]
   Cr
   0.5
   0.5
   0.4
   0.5
   0.4
   0.5
   TCO2
   34
   35
   32
   Glucose
   107
   94
   89
   105
   104
   109
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  s/p tracheostomy, day 1..  Respiratory
   distress/fevers likely [**1-1**] multi-focal pneumonia and pulmonary edema,
   of unknown cause.  Fevers resolved. Autoimmune workup negative
   ([**Doctor First Name **]/ANCA/RF/complement), extensive infectious w/u negative.  S/p
   ceftriaxone, cefepime, vanco, azithro ([**5-13**]), oseltamivir (6/18
 [**5-19**])
   and doxycycline.  Abx had been changed on [**5-18**] due to concern about
   drug reaction.  CXR shows little interval change, persistence of b/l
   pulmonary infiltrates.  Clinical status has improved significantly and
   patient is going for trach/PEG as pt epeatedly failed SBT [**1-1**]
   tachypnea- likely multifactorial due to increased work of breathing
   after prolonged intubation, anxiety, some mild drug withdrawal.
   - continue vent management, wean sedation to attmpt PS 10/5
   - propogol, ativan for sedation
   - f/u studies, CIS
   - continue PT due to weakness 2/2 prolonged ICU stay
   # New rash: stable, not progressing - macular errythematous rash
   concerning for heat/moisture rash vs. drug reaction vs. fungal.
   Distributions seems consistent with heat rash (esp in context of
   diaphoresis and uncontrolled secretions), however cannot r/u drug
   reaction given pts history of drug reaction and recent abx tx.
   Appearance is less consistent with fungal infection.
   -follow derm consult
   -miconazole/hydrocortisone cream PRN
   .
   #Persistent Fever of Unknown Origin: afebrile x 3 days.  No evidence
   for autoimmune disease or malignancy at this point.  Multifocal PNA of
   unknown etiology treated with broad coverage abx, course completed.
   Possibility that drug side effect given the amount of abx pt is on.
   Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence
   of deep space infection by CT sinus or CT abd/pelvis. h/o CONS pos
   bottle, no repeat positive culture.
   - tyelenol q. 4 hrs PRN fever
   - CIS
   #Secretions: likely oropharyngeal but potential early indication of VAP
   especially given increase in WBC.  CXR shows little interval change,
   patient is not more dyspnic, remains afebrile- no indication for
   empiric antibiotics for now.
   - suction prn secretions
   # Facial edema: Edema resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S UTD
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, holding home metoprolol, restart on DC
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - ativan PRN
   # DM: stable, continue HISS and glargine 16 units qhs (half dose while
   NPO)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2170-5-31**] 07:52 PM 25 mL/hour
   Glycemic Control:  ISS + glargine
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: awaiting PEG, possibly monday

2170-06-01 08:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2170-5-31**] 11:56 AM
   At bedside
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2170-5-31**] 12:26 PM
   Morphine Sulfate - [**2170-5-31**] 04:43 PM
   Lansoprazole (Prevacid) - [**2170-5-31**] 07:41 PM
   Heparin Sodium (Prophylaxis) - [**2170-6-1**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-1**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 84 (72 - 100) bpm
   BP: 112/60(74) {93/50(60) - 177/90(107)} mmHg
   RR: 16 (11 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                  1,120 mL
                                                                    365 mL
   PO:
             TF:
                                                                    103 mL
                                                                    206 mL
   IVF:
                                                                    896 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    520 mL
   Urine:
                                                                  1,445 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   565 K/uL
   109 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   29.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:05 AM
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   Plt
   594
   657
   717
   [**Telephone/Fax (3) 7083**]
   Cr
   0.5
   0.5
   0.4
   0.5
   0.4
   0.5
   TCO2
   34
   35
   32
   Glucose
   107
   94
   89
   105
   104
   109
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to LLL pneumonia, possible ARDS.  Also VAP.
   Continue mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%.
   Oral swelling resolved.  Sedation tapered.  Continue weaning PEEP
   towards 5 cmH2O.  Monitor VBG and SaO2.  Tolerating SBT, but component
   of anxiety, abnormal lung parencyhyma and profound motor weakness
   limiting progress.    Anxiety and motor weakness remains major
   obstacles to adequate SBT.  Plan for tracheotomy tube placement.
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials today. (Vanco,
   Meropenim, Doxicycline).
   RASH
 concern for drug rash (although asymmetric) or contact
   dermatitis.  Consider Dermatology evaluation.  Monitor.  Local care.
   BACTEREMIA -- GPC.  Suspect line-related --> completed Vanco.  Assess
   lines, may require resighting or discontinuation.
   FLUIDS -- desire net negative balance.  Monitor I/O.  Aim for net
   negative 1-2 litres for next 24 hrs.
   SEDATION -- Now on standing ativan doses and Propofol infusion.
   LFT ELEVATION
 slowly improving.  Monitor.
   FEVER
 resolved.
   ANEMIA -- repeat, transfuse as needed.
   NIDDM
 monitor glucose while on steroids, continue insulin.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT
 Continue TF at goal.  On hold for trach.  Will
   need PEG (either percutaneous or surgical).
   GENERALIZED WEAKNESS -- critical care mypathy.  PT consult.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2170-5-31**] 07:52 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2170-06-02 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-1**]
   - no events overnight
   - requiring high PS [**1-1**] low tidal volumes and tachypnea
   - labile emotions; intermittently tearful
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-6-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-2**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 82 (73 - 97) bpm
   BP: 118/66(77) {108/60(74) - 140/84(97)} mmHg
   RR: 30 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                    920 mL
                                                                    244 mL
   PO:
             TF:
                                                                    600 mL
                                                                    166 mL
   IVF:
                                                                    270 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    400 mL
   Urine:
                                                                  1,615 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -695 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 293 (277 - 386) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   GENERAL: alert, able to follow commands
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck supple, tracheostomy in
   place
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: equal air entry bilaterally
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: erythematous rash over trunk resolving
   NEURO: CN 2-12 grossly intact. Moving all extremities, strength 3/5 in
   all extremities b/l
   PSYCH: tearful and anxious
   Labs / Radiology
   538 K/uL
   9.9 g/dL
   112 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   30.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
                             [**2170-6-2**]  04:01 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   8.1
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   30.4
   Plt
   594
   657
   717
   [**Telephone/Fax (3) 7083**]
   538
   Cr
   0.5
   0.4
   0.5
   0.4
   0.5
   0.5
   TCO2
   34
   35
   32
   Glucose
   94
   89
   105
   104
   109
   112
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  s/p tracheostomy, day 2.  Orginal
   etiology of respiratory distress/fevers likely [**1-1**] multi-focal
   pneumonia and pulmonary edema, of unknown cause.  Fevers resolved.
   Autoimmune workup negative ([**Doctor First Name **]/ANCA/RF/complement), extensive
   infectious w/u negative.  S/p ceftriaxone, cefepime, vanco, azithro
   ([**5-13**]), oseltamivir (6/18
 [**5-19**]) and doxycycline.  Abx had been
   changed on [**5-18**] due to concern about drug reaction.  CXR shows little
   interval change, persistence of b/l pulmonary infiltrates.  Clinical
   status has improved significantly although repeatedly fails SBT [**1-1**]
   tachypnea- likely multifactorial due to increased work of breathing
   after prolonged intubation, anxiety, some mild drug withdrawal,
   decreased lung compliance from ARDS.
   - continue vent management, wean sedation to attmpt PS 10/5
   - try to wean propofol
   - f/u studies, CIS
   - continue PT due to weakness 2/2 prolonged ICU stay
   # New rash: stable, not progressing - macular errythematous rash
   concerning for heat/moisture rash vs. drug reaction vs. fungal.
   Distributions seems consistent with heat rash (esp in context of
   diaphoresis and uncontrolled secretions), however cannot r/u drug
   reaction given pts history of drug reaction and recent abx tx.
   Appearance is less consistent with fungal infection.
   -follow derm consult
   -miconazole/hydrocortisone cream PRN
   .
   #Persistent Fever of Unknown Origin: afebrile x 3 days.  No evidence
   for autoimmune disease or malignancy at this point.  Multifocal PNA of
   unknown etiology treated with broad coverage abx, course completed.
   Possibility that drug side effect given the amount of abx pt is on.
   Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence
   of deep space infection by CT sinus or CT abd/pelvis. h/o CONS pos
   bottle, no repeat positive culture.
   - tyelenol q. 4 hrs PRN fever
   - CIS
   #Secretions: likely oropharyngeal but potential early indication of VAP
   especially given increase in WBC.  CXR shows little interval change,
   patient is not more dyspnic, remains afebrile- no indication for
   empiric antibiotics for now.
   - suction prn secretions
   - avoid scopolamine [**1-1**] CNS effects
   # Facial edema: Edema resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S UTD
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, holding home metoprolol, restart on d/c
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - increase ativan to 1 mg TID with PRN dose q 2hrs
   -social work consult for patient coping
   - cont. supportive psychotherapy via nursing, physician [**Name Initial (PRE) 1750**]
   # DM: stable, continue HISS and glargine 16 units qhs
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2170-5-31**] 07:52 PM 25 mL/hour
   - PEG tube placement planned for Monday
   Glycemic Control:  HISS, glargine 16 units qhs
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: stable

2170-06-02 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-6-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-2**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 82 (73 - 97) bpm
   BP: 118/66(77) {108/61(75) - 140/84(97)} mmHg
   RR: 30 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                    920 mL
                                                                    299 mL
   PO:
             TF:
                                                                    600 mL
                                                                    203 mL
   IVF:
                                                                    270 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    400 mL
   Urine:
                                                                  1,615 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -695 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (277 - 386) mL
   PS : 12 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 17.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   538 K/uL
   112 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   30.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
                             [**2170-6-2**]  04:01 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   8.1
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   30.4
   Plt
   594
   657
   717
   [**Telephone/Fax (3) 7083**]
   538
   Cr
   0.5
   0.4
   0.5
   0.4
   0.5
   0.5
   TCO2
   34
   35
   32
   Glucose
   94
   89
   105
   104
   109
   112
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to pneumonia, ARDS.  Also VAP.  Continue
   mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%. Oral
   swelling resolved.  Sedation tapered.  Continue weaning PEEP towards 5
   cmH2O.  Monitor VBG and SaO2.  Tolerating SBT, but component of
   anxiety, abnormal lung parencyhyma and profound motor weakness limiting
   progress.    Anxiety and motor weakness remains major obstacles to
   adequate SBT.  Plan for tracheotomy tube placement.
   Will try to convert to PSV
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials
   RASH
 Local care.
   BACTEREMIA -- GPC.  Suspect line-related --> completed Vanco.  Assess
   lines, may require resighting or discontinuation.
   FEVER
 resolved.
   CAD
 cont ASA
   ANEMIA -- monitor, transfuse as needed.
   NIDDM
continue insulin.  Maintain glucose <150.
   GENERALIZED WEAKNESS -- critical care mypathy.  Eventual PT
   ICU [**Name (NI) 232**]
   Nutrition:
   Replete with Fiber (Full) - [**2170-5-31**] 07:52 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2170-06-03 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA, ARDs
   24 Hour Events:
   - weaned off propofol, using ativan for anxiolytic
   - EG planned for Monday prior to transfer to rehab facility
   - emotionally labile; social work consult for patient coping skills
   - weaned off mechanical ventilation successfully!
   - given 500 cc bolus due to slightly low urine output
   -pulled out NG tube and peripheral IV out of arm
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-6-3**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-3**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 85 (68 - 99) bpm
   BP: 126/70(83) {115/62(77) - 146/85(99)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                    960 mL
                                                                    639 mL
   PO:
             TF:
                                                                    600 mL
                                                                    139 mL
   IVF:
                                                                    130 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,154 mL
                                                                    340 mL
   Urine:
                                                                  1,154 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -194 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (316 - 353) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   GENERAL: well appearing, NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. Dry mucus membranes
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: b/l coarse upper respiratory sounds
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: resolving erythematous rash over nape of neck
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Moves all
   extremities strength 3/5
   PSYCH: Listens and responds to questions appropriately, pleasant
   .
   Labs / Radiology
   538 K/uL
   9.9 g/dL
   112 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   30.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
                             [**2170-6-2**]  04:01 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   8.1
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   30.4
   Plt
   594
   657
   717
   [**Telephone/Fax (3) 7083**]
   538
   Cr
   0.5
   0.4
   0.5
   0.4
   0.5
   0.5
   TCO2
   34
   35
   32
   Glucose
   94
   89
   105
   104
   109
   112
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  s/p tracheostomy, day 2.  Orginal
   etiology of respiratory distress/fevers likely [**1-1**] multi-focal
   pneumonia and pulmonary edema, of unknown cause.  Fevers resolved.
   Autoimmune workup negative ([**Doctor First Name **]/ANCA/RF/complement), extensive
   infectious w/u negative.  S/p ceftriaxone, cefepime, vanco, azithro
   ([**5-13**]), oseltamivir (6/18
 [**5-19**]) and doxycycline.  Abx had been
   changed on [**5-18**] due to concern about drug reaction.  CXR shows little
   interval change, persistence of b/l pulmonary infiltrates.  Clinical
   status has improved significantly although repeatedly fails SBT [**1-1**]
   tachypnea- likely multifactorial due to increased work of breathing
   after prolonged intubation, anxiety, some mild drug withdrawal,
   decreased lung compliance from ARDS.
   - continue vent management, wean sedation to attmpt PS 10/5
   - try to wean propofol
   - f/u studies, CIS
   - continue PT due to weakness 2/2 prolonged ICU stay
   # New rash: stable, not progressing - macular errythematous rash
   concerning for heat/moisture rash vs. drug reaction vs. fungal.
   Distributions seems consistent with heat rash (esp in context of
   diaphoresis and uncontrolled secretions), however cannot r/u drug
   reaction given pts history of drug reaction and recent abx tx.
   Appearance is less consistent with fungal infection.
   -follow derm consult
   -miconazole/hydrocortisone cream PRN
   .
   #Persistent Fever of Unknown Origin: afebrile x 3 days.  No evidence
   for autoimmune disease or malignancy at this point.  Multifocal PNA of
   unknown etiology treated with broad coverage abx, course completed.
   Possibility that drug side effect given the amount of abx pt is on.
   Rheumatic work up to date is negative (ANCA/[**Doctor First Name **]/RF/c3/c4).  No evidence
   of deep space infection by CT sinus or CT abd/pelvis. h/o CONS pos
   bottle, no repeat positive culture.  Extubated and stable
   - tylenol q. 4 hrs PRN fever
   - CIS
   .
   # Nutrition: pt pulled dobhoff today
   - speech and swallow to consult
   - hold on PEG placement for now as pt is rapidly improving
   .
   #Secretions: likely oropharyngeal but potential early indication of VAP
   especially given increase in WBC.  CXR shows little interval change,
   patient is not more dyspnic, remains afebrile- no indication for
   empiric antibiotics for now.
   - suction prn secretions
   - avoid scopolamine [**1-1**] CNS effects
   # Facial edema: Edema resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor daily CBC
   - T+S UTD
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, restart lopressor today
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - increase ativan to 1 mg TID with PRN dose q 2hrs
   -social work consult for patient coping
   - cont. supportive psychotherapy via nursing, physician [**Name Initial (PRE) 1750**]
   # DM: stable, continue HISS and glargine 16 units qhs
   ICU Care
   Nutrition:
   Restart Replete with Fiber (Full) - [**2170-6-2**] 11:51 AM 25 mL/hour if
   pt unable to take POs
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT: hepain
   Stress ulcer: lansoprazole, will switch to famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: likely to rehab tomorrow

2170-06-03 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2170-6-2**] 03:35 PM
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-6-3**] 07:20 AM
   Heparin Sodium (Prophylaxis) - [**2170-6-3**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-3**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 106 (68 - 106) bpm
   BP: 144/77(92) {115/62(79) - 146/85(99)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
             Total In:
                                                                    960 mL
                                                                    675 mL
   PO:
             TF:
                                                                    600 mL
                                                                    175 mL
   IVF:
                                                                    130 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,154 mL
                                                                    480 mL
   Urine:
                                                                  1,154 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -194 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (316 - 353) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   538 K/uL
   112 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   30.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:25 AM
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
                             [**2170-6-2**]  04:01 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   8.1
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   30.4
   Plt
   594
   657
   717
   [**Telephone/Fax (3) 7083**]
   538
   Cr
   0.5
   0.4
   0.5
   0.4
   0.5
   0.5
   TCO2
   34
   35
   32
   Glucose
   94
   89
   105
   104
   109
   112
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- Persistent, but now demonstrating daily
   improvement.  Attributed to pneumonia, ARDS.  Also VAP.  Continue
   mechanical ventilation.  Aim for pH= 7.35-7.40, SaO2 >90%. Oral
   swelling resolved.  Sedation tapered.  Monitor VBG and SaO2. Rapid
   shallow breathing related to late stage ARDS and motor weakness
   limiting progress.  Anxiety and motor weakness remains major obstacles
   to adequate SBT.
   Anxiety
 will increase ativan, wean propofol
   PNEUMONIA -- unclear etiology of initial presentation of CAP, followed
   by complication of VAP --> completed antimicrobials
    RASH
 Local care.
   FEVER
 resolved.
   CAD
 cont ASA, statin
   ANEMIA -- monitor, transfuse as needed.
   NIDDM
continue insulin.  Maintain glucose <150.
   GENERALIZED WEAKNESS -- critical care mypathy.  Eventual PT
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-5-31**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2170-06-04 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - metop held b/c pressures were stable
   - hold on re-placement of dobhoff, speech and swallow pending
   - advance diet as tolerated
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-6-3**] 06:00 PM
   Famotidine (Pepcid) - [**2170-6-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-6-4**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-4**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 89 (75 - 106) bpm
   BP: 150/86(101) {122/71(85) - 150/92(106)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
                  Total In:
                                                                    725 mL
                  PO:
                  TF:
                                                                    175 mL
   IVF:
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,086 mL
                                                                    175 mL
   Urine:
                                                                  1,086 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GENERAL: pleasant, well appearing, NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.dry mucus membranes.. OP clear.  Neck Supple,
   trach in place.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: coarse breath sounds, decreased at bases
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: erythematous rash over nape of neck, back improving
   NEURO:  CN 2-12 grossly intact. Improving strength. Gait assessment
   deferred
   PSYCH: Listens and nonverbally responds to questions appropriately,
   pleasant
   Labs / Radiology
   557 K/uL
   10.6 g/dL
   93 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   21 mg/dL
   103 mEq/L
   140 mEq/L
   32.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2170-5-27**]  05:27 AM
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
                             [**2170-6-2**]  04:01 AM
                             [**2170-6-4**]  04:16 AM
   WBC
   13.2
   11.2
   12.6
   13.6
   11.3
   11.4
   8.1
   9.2
   Hct
   29.9
   27.5
   29.9
   29.9
   30.0
   29.0
   30.4
   32.8
   Plt
   594
   657
   717
   [**Telephone/Fax (2) 7129**]57
   Cr
   0.5
   0.4
   0.5
   0.4
   0.5
   0.5
   0.5
   TCO2
   35
   32
   Glucose
   94
   89
   105
   104
   109
   112
   93
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:41/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Respiratory distress/Fevers:  s/p tracheostomy, day 4.  Weaned off
   mechanical ventilation today.  Maintaining saturations on 50% FiO2.
   Original etiology of respiratory distress/fevers likely [**1-1**] multi-focal
   pneumonia and pulmonary edema, of unknown cause.  Fevers resolved.
   Autoimmune workup negative ([**Doctor First Name **]/ANCA/RF/complement), extensive
   infectious w/u negative.  S/p ceftriaxone, cefepime, vanco, azithro
   ([**5-13**]), oseltamivir (6/18
 [**5-19**]) and doxycycline.  Abx had been
   changed on [**5-18**] due to concern about drug reaction.  CXR shows little
   interval change, persistence of b/l pulmonary infiltrates.  Although
   the patient
s clinical status improved significantly, she repeatedly
   failed SBT [**1-1**] tachypnea- likely multifactorial due to increased work
   of breathing after prolonged intubation, anxiety, some mild drug
   withdrawal, decreased lung compliance from ARDS.  As a result, the
   patient had a tracheostomy on [**5-30**]
   - wean O2 requirements as tolerated, keeping O2 saturation >90%
   - f/u studies, CIS
   - continue PT due to weakness 2/2 prolonged ICU stay
   -incentive spirometry and pulmonary toilet
   # Erythematous rash: resolving- macular errythematous rash concerning
   for heat/moisture rash vs. drug reaction vs. fungal.  Distributions
   seems consistent with heat rash (esp in context of diaphoresis and
   uncontrolled secretions), however cannot r/u drug reaction given pts
   history of drug reaction and recent abx tx.  Appearance is less
   consistent with fungal infection.
   -follow derm consult
   -miconazole/hydrocortisone cream PRN
   .
   # Nutrition: pt pulled dobbhoff yesterday
   - speech and swallow recs appreciated
   - advance diet to pureed solids and nectar-thickened liquids
   -videoswallow study today as per nutrition reccommendations
   # Facial edema: Edema resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor intermittent CBC
   - T+S UTD
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, restart lopressor today
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - increase ativan to 1 mg TID with PRN dose q 2hrs
   -social work consult for patient coping
   - cont. supportive psychotherapy via nursing, physician [**Name Initial (PRE) 1750**]
   # DM: stable, continue HISS and glargine 16 units qhs
   ICU Care
   Nutrition: Nectar thickened, pureed solids diet as per nutrition
   Glycemic Control:  HSSI + glargine
   Lines:
   20 Gauge - [**2170-5-29**] 03:25 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: stable to transfer to rehab today or tomorrow

2170-06-05 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA, s/p intubation
   24 Hour Events:
   -diet advanced sucessfully
   -episode of CP this AM in the context of anxiety
   Allergies:
   Atorvastatin
   Nausea/Vomiting
   Ibuprofen
   Nausea/Vomiting
   Levofloxacin
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-6-4**] 08:13 AM
   Lorazepam (Ativan) - [**2170-6-4**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2170-6-4**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-5**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 81 (62 - 99) bpm
   BP: 151/67(89) {99/60(76) - 153/89(112)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 98 kg
   Height: 59 Inch
                  Total In:
                                                                    790 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    550 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    230 mL
   Urine:
                                                                    720 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     70 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   GENERAL: pleasant, anxiions
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.dry mucus membranes.. OP clear.  Neck Supple,
   trach in place.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: coarse breath sounds, decreased at bases
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: erythematous rash over nape of neck, back improving
   NEURO:  CN 2-12 grossly intact. Improving strength. Gait assessment
   deferred
   PSYCH: Listens and nonverbally responds to questions appropriately,
   pleasant
   Labs / Radiology
   485 K/uL
   10.7 g/dL
   103 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.1 mEq/L
   21 mg/dL
   101 mEq/L
   134 mEq/L
   31.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2170-5-27**]  06:45 AM
                             [**2170-5-28**]  04:14 AM
                             [**2170-5-29**]  04:25 AM
                             [**2170-5-30**]  03:11 AM
                             [**2170-5-30**]  03:41 AM
                             [**2170-5-31**]  02:47 AM
                             [**2170-6-1**]  04:04 AM
                             [**2170-6-2**]  04:01 AM
                             [**2170-6-4**]  04:16 AM
                             [**2170-6-5**]  06:20 AM
   WBC
   11.2
   12.6
   13.6
   11.3
   11.4
   8.1
   9.2
   11.7
   Hct
   27.5
   29.9
   29.9
   30.0
   29.0
   30.4
   32.8
   31.2
   Plt
   657
   717
   769
   [**Telephone/Fax (3) **]
   557
   485
   Cr
   0.5
   0.4
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   35
   32
   Glucose
   94
   89
   105
   104
   109
   112
   93
   103
   Other labs: PT / PTT / INR:11.9/24.3/1.0, CK / CKMB /
   Troponin-T:21/2/<0.01, ALT / AST:32/30, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:31/20, Differential-Neuts:69.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:5.0 %, Lactic Acid:2.1 mmol/L, LDH:240
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 DIARRHEA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   54F w DM2, HTN, NSTEMI who p/w fever, cough, myalgias, n/v/d and found
   to have hypoxia and multi-focal infiltrates on CXR.
   # Rehabilitation: Pt with significant improvement over the last few
   days, decreasing oxygen requirements and good PO intake.  Screened for
   placement.
   - will discuss d/c with nutrition, confrim that she is ok to dc
   - to rehab today
   .
   # Chest pain:  Pt c/o chest pain this AM however when questioned, pt
   points to LUQ.  She states that it is a non-radiating, tightness that
   came on approximately one hour ago.  She appeared quite anxious on
   exam.  Possible etiologies include cardiac ischemia, pleural pain [**1-1**]
   pneumonia hx, GERD, anxiety.  Cardiac w/u including EKG and cardiac
   enzymes was negative.  Pt is currently taking aspirin.   Low suspicion
   for cardiac etiology given negative work up, most likely anxiety given
   pt
s hx, anxious state on exam in the setting of discharge today.
   -PRN ativan for anxiety
   # Respiratory distress/Fevers:  s/p tracheostomy.  Weaned off
   mechanical ventilation today.  Maintaining saturations on 40% FiO2.
   Original etiology of respiratory distress/fevers likely [**1-1**] multi-focal
   pneumonia and pulmonary edema, of unknown cause.  Fevers resolved.
   Autoimmune workup negative ([**Doctor First Name **]/ANCA/RF/complement), extensive
   infectious w/u negative.  S/p ceftriaxone, cefepime, vanco, azithro
   ([**5-13**]), oseltamivir (6/18
 [**5-19**]) and doxycycline.  Abx had been
   changed on [**5-18**] due to concern about drug reaction.  CXR shows little
   interval change, persistence of b/l pulmonary infiltrates.  Although
   the patient
s clinical status improved significantly, she repeatedly
   failed SBT [**1-1**] tachypnea- likely multifactorial due to increased work
   of breathing after prolonged intubation, anxiety, some mild drug
   withdrawal, decreased lung compliance from ARDS.  As a result, the
   patient had a tracheostomy on [**5-30**].
   - wean O2 requirements as tolerated, keeping O2 saturation >90%
   - continue PT due to weakness 2/2 prolonged ICU stay
   -incentive spirometry and pulmonary toilet
   # Erythematous rash: resolving- macular errythematous rash concerning
   for heat/moisture rash vs. drug reaction vs. fungal.  Distributions
   seems consistent with heat rash (esp in context of diaphoresis and
   uncontrolled secretions), however cannot r/u drug reaction given pts
   history of drug reaction and recent abx tx.  Appearance is less
   consistent with fungal infection.
   -will hold miconazole/hydrocortisone cream for now given rash has
   resolved
   .
   # Nutrition: pt pulled dobbhoff, did not replace as pt was taking good
   PO intake
   - speech and swallow recs appreciated
   - advance diet as tolerated
   - will hold video swallow study today as pt is ready for dc and doing
   well with advancement of diet
   # Facial edema: Edema resolved after cessastion of Linezolid.  Unclear
   etiology--Completed steroid course.
   # Anemia: Stablized, likely dilutional
   - monitor intermittent CBC
   - T+S UTD
   # Tranaminitis: continues to improve.  CT abdomen show mildly dilated
   CBD s/p cholecystectomy, fatty infiltrate of liver.
   - re-evaluate if clinically indicated
   # HTN
stable, will continue metoprolol on DC
   # s/p NSTEMI
Continue ASA and Statin.
   # Depression/anxiety:
   - on home dose seratraline
   - ativan PRN
   -social work consult for patient coping
   - cont. supportive psychotherapy via nursing, physician [**Name Initial (PRE) 1750**]
   # DM: stable, continue HISS and glargine 16 units [**Last Name (LF) **], [**First Name3 (LF) 116**] restart
   metoprolol on DC
   ICU Care
   Nutrition: Nectar thickened, pureed solids diet, advance as tolerated
   Glycemic Control:  HSSI + glargine
   Lines:
   20 Gauge - [**2170-5-29**] 03:25 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: stable to transfer to rehab today